2121-09-10 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-9-9**] 11:00 AM
   - TTE: extremely poor image windows. LV systolic function is probably
   normal LVEF > 55 %. Other structures of the heart are not well
   visualized.
   - Cx from [**Location (un) **] ED: 2/4 bottles with GPC in clusters - f/u speciation
   and sensitivities [**Telephone/Fax (1) 8401**]
   - Weaned off Dopamine and vasopressin, still on max levophed
   - Potassium persistently elevated > 5.5 treated with Kayexalate but did
   not have BM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-9-10**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-10**] 02:00 AM
   Infusions:
   Insulin - Regular - 0.5 units/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Drotrecogin (Xigris) - 20 mcg/Kg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-9**] 09:00 PM
   Famotidine (Pepcid) - [**2121-9-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-10**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 72 (62 - 85) bpm
   BP: 109/74(90) {90/50(64) - 142/5,955(162)} mmHg
   RR: 24 (7 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 18 (11 - 18)mmHg
   Total In:
                                                                 21,885 mL
                                                                  1,316 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                 13,885 mL
                                                                  1,136 mL
   Blood products:
   Total out:
                                                                    842 mL
                                                                    415 mL
   Urine:
                                                                    842 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 21,043 mL
                                                                    903 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 13 cmH2O
   FiO2: 80%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 97%
   ABG: 7.33/41/168/20/-4
   Ve: 9.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Cardiovascular: gen: intubated, sedated
   cv: RRR
   resp: reduced breath sounds anteriorly
   abd: soft, hypoactive bowel sounds
   ext: edematous diffusely
   Labs / Radiology
   88 K/uL
   9.0 g/dL
   176 mg/dL
   3.4 mg/dL
   20 mEq/L
   5.5 mEq/L
   82 mg/dL
   105 mEq/L
   135 mEq/L
   27.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2121-9-9**]  05:13 AM
                             [**2121-9-9**]  06:26 AM
                             [**2121-9-9**]  06:43 AM
                             [**2121-9-9**]  11:49 AM
                             [**2121-9-9**]  12:19 PM
                             [**2121-9-9**]  05:51 PM
                             [**2121-9-9**]  06:16 PM
                             [**2121-9-9**]  11:58 PM
                             [**2121-9-10**]  12:33 AM
                             [**2121-9-10**]  06:22 AM
   WBC
   2.1
   6.1
   9.4
   10.4
   Hct
   31
   30.2
   29.9
   28.6
   27.4
   Plt
   115
   100
   103
   88
   Cr
   3.2
   3.3
   3.5
   3.4
   TropT
   0.09
   TCO2
   23
   19
   21
   23
   23
   Glucose
   [**Telephone/Fax (3) 8402**]76
   Other labs: PT / PTT / INR:14.7/96.0/1.3, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:57/63, Alk Phos / T Bili:43/0.2,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:661 mg/dL, LDH:259 IU/L, Ca++:6.8 mg/dL, Mg++:1.4
   mg/dL, PO4:3.1 mg/dL
   Microbiology: GPCs in clusters from [**Location (un) **]
   legionella neg
   flu neg
   cultures pending
   sputum gram stain:
      GRAM STAIN (Final [**2121-9-9**]):
         [**10-12**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
   TTE: Extreemly poor image windows. The left atrium is normal in size.
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   probably normal (LVEF>55%). RV not well seen. The aortic valve is not
   well seen. There is no aortic valve stenosis. The mitral valve leaflets
   are not well seen. There is no pericardial effusion.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ACIDOSIS, MIXED
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   .
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Pt was transferred from [**Location (un) **] ED to [**Hospital1 1**] on 3 pressors, able to
   be weaned down to 2 pressors of Dopamine following 8 litres of fluid.
   Pt is currently is hypothermic on examination. Pt noted to have
   positive U/A as well as large PNA on left lung. Suspect sources to be
   pulmonary versus urine. Pt's CVP currently [**10-30**], MAP noted to be 76,
   with a mixed venous sat of 83%. Pt also was reportedly on Dexamethasone
   at home and thus was given stress dose steroids in the ED. Per family
   pt has a history of PNA versus aspiration PNA, hospitalizaed three
   times over the past year
   - influenza antigen and legionella negative
   - will try to wean DA first and then levophed to maintain MAP >65
   - will continue on broad coverage with Zosyn, Cipro for coverage of
   Gram+, Gram -, atypicals and double coverage for Pseudomonas.
   Vancomycin for MRSA. Blood cx from OSH growing GPCs in clusters
   - f/u panculture results, continue surveillance blood cultures
   - will continue on IV Hydrocortisone
   - pt on xygris [**1-20**] high apache score
   .
   #hyperkalemia: could be [**1-20**] to renal failure, but pt is making urine.
   Also ? hypoaldo as [**Last Name (un) **] pmh and [**Last Name (un) **] home meds. Most likely [**1-20**] to comb
   of renal insuff plus repletion c LR. Will call PCP today Dr [**Last Name (STitle) 8406**]
   [**Telephone/Fax (1) 8407**] today to get better sense of pmh.
   -f/u am K
   -may need additional kayexelate
   .
   # [**Last Name (un) 2406**]:  [**Last Name (un) **] baseline.
   -Consider urine sediment.
   -Check urine lytes to diff bet prerenal v atn, most likely atn
   -ask pcp about baseline GFR
   .
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   Troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension. Pt currently on Xigris so would not give IV Heparin due to
   bleeding risk, pt also not a candidate for cath given his instability.
   - consider add bblocker and ace if improves clinically and off pressors
   and asa once xygris off
   .
   ##. Bradycardic: Pt noted to be bradycardic, requiring Atropine in the
   field for HR in the 40s. Bradycardia is likely due to his hypothermia.
   - will continue to monitor heart rate on tele, not bradycardic since
   admission
   .
   ##. Respiratory Failure: Pt currently on ARDSnet protocol.
   - continue ardsnet
   - wean FiO2 prn
   - will sedate with Fentanyl and Midazolam
   .
   ##. Hypothyroidism: Will continue on home regimen of levothyroxine.
   .
   #housekeeping: home meds
   .
   # FEN: replete electrolytes, consider OGT and tube feeds
   .
   # Prophylaxis: Subcutaneous heparin
   .
   # Access: Peripherals, Right IJ, A-line
   .
   # Code: DNR (? chemical code)
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   18 Gauge - [**2121-9-8**] 10:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2121-09-11 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -from [**Location (un) **]: growing coag neg staph of 2 morphologies out of blood
   and growing >100,000 VRE from urine. the VRE is sensitive to ampicillin
   in addition to linezolid and daptomycin. D/w Dr [**Last Name (STitle) 242**] and we will keep
   him on his current meds for now (zosyn covering enterococcus).
   -also growing enterococcus from urine on admission here
   -got more blood cultures and urine culture and sputum culture today
   -got records from pt's pcp ([**Last Name (un) 8424**] #[**Telephone/Fax (1) 8407**])
   -Dr [**Last Name (STitle) 8424**] reports that pt's home living situation is very poor. In past
   has had vna and they feel  unsafe their for health reasons (in
   disarray, dirty). Pt not able to care for self and sister also very
   debilitated by psych issues. Dr [**Last Name (STitle) 8424**] feels strongly that pt belongs in
   [**Hospital1 **], but sister has been reluctant to pursue in the past. Will consult
   sw.
   -consider picc tomorrow or friday
   -does have mild chronic cri s/p nephrectomy for hematoma
   -weaned sedation down, weaned levo
   -tried to wean peep down from 12 to 10, but patient later desaturated
   when turned, and PaO2 of 64. turned peep back up to 12
   -HCT of 22.5, gave one unit PRBC
   -6pm, called for brady to 40's, but then spontaneously resolved.
   happened while nurse [**First Name (Titles) **] [**Last Name (Titles) 8425**] lines, but doesnt seem vagal. On
   tele, was sinus. By the time we got there he was back in the 60's
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-10**] 11:30 AM
   Ciprofloxacin - [**2121-9-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-11**] 03:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 50 mcg/hour
   Drotrecogin (Xigris) - 20 mcg/Kg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Insulin - Regular - 1.5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-10**] 08:15 PM
   Famotidine (Pepcid) - [**2121-9-11**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-11**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.1
   HR: 66 (42 - 71) bpm
   BP: 103/50(66) {103/50(66) - 160/73(95)} mmHg
   RR: 19 (18 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 118 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 12 (10 - 14)mmHg
   Total In:
                                                                  3,981 mL
                                                                    934 mL
   PO:
                                                                    120 mL
   TF:
                                                                    170 mL
                                                                    294 mL
   IVF:
                                                                  3,211 mL
                                                                    640 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,740 mL
                                                                    590 mL
   Urine:
                                                                  1,740 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,241 mL
                                                                    344 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 32.3 cmH2O/mL
   SpO2: 94%
   ABG: 7.37/40/108/21/-1
   Ve: 10.5 L/min
   PaO2 / FiO2: 216
   Physical Examination
   gen: intubated, sedated
   cv: RRR
   resp: clear anteriorly
   abd: obese, hypoactive bowel sounds
   ext: edematous
   Labs / Radiology
   55 K/uL
   7.7 g/dL
   110 mg/dL
   4.1 mg/dL
   21 mEq/L
   4.0 mEq/L
   88 mg/dL
   103 mEq/L
   137 mEq/L
   23.2 %
   5.5 K/uL
         [image002.jpg]
                             [**2121-9-10**]  12:32 PM
                             [**2121-9-10**]  03:49 PM
                             [**2121-9-10**]  04:03 PM
                             [**2121-9-10**]  04:41 PM
                             [**2121-9-10**]  05:22 PM
                             [**2121-9-10**]  05:35 PM
                             [**2121-9-11**]  12:00 AM
                             [**2121-9-11**]  12:08 AM
                             [**2121-9-11**]  04:00 AM
                             [**2121-9-11**]  04:09 AM
   WBC
   6.7
   6.9
   5.5
   Hct
   22.9
   22.5
   23.7
   23.2
   Plt
   72
   58
   55
   Cr
   4.1
   TCO2
   22
   21
   22
   22
   23
   24
   Glucose
   110
   Other labs: PT / PTT / INR:13.8/86.9/1.2, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:45/30, Alk Phos / T Bili:42/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:644 mg/dL, Lactic Acid:1.4 mmol/L, LDH:275 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:5.0 mg/dL
   Microbiology: [**2121-9-9**] 8:52 am SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2121-9-9**]):
         [**10-12**] PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
         HEAVY GROWTH Commensal Respiratory Flora.
         YEAST.    HEAVY GROWTH.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   from [**Location (un) **]: growing coag neg staph of 2 morphologies out of blood and
   growing >100,000 VRE from urine. the VRE is sensitive to ampicillin in
   addition to linezolid and daptomycin. D/w Dr [**Last Name (STitle) 242**] and we will keep
   him on his current meds for now (zosyn covering enterococcus).
   also growing enterococcus from blood cultures from here, sensitivities
   pending
   Assessment and Plan
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ACIDOSIS, MIXED
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   .
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Found to have pna and equivocal urinalysis. Per family pt has a
   history of PNA versus aspiration PNA, hospitalizaed three times over
   the past year
   - influenza antigen and legionella negative
   - weaning pressors, now just on levophed
   - will continue on broad coverage with Zosyn, Cipro and vancomycin.
   currently growing vre sensitive to amp, gnrs from sputum and coag neg
   staph from blood (likely contaminant). Likely dc vancomycin tomorrow
   - f/u panculture results
   - will continue on IV Hydrocortisone, weaned to 50q6h (=7.5 daily of
   decadron, pt on 2 daily of decadron at home)
   - pt on xygris [**1-20**] high apache score, check [**Hospital1 **] coags. Will dc xygris
   today if PTT stays high this afternoon.
   .
   ##. Respiratory Failure: Pt currently on ARDSnet protocol, however
   overall status seems to be improved
   - will aim to wean today possibly try PSV
   - lighten Fentanyl and Midazolam
   .
   # [**Last Name (un) 2406**]:  baseline 1.8-2, current Cr is 4. Likely this is [**1-20**] ATN. UOP
   has gone from low to high so likely renal function is in process of
   improving.
   -will trend
   .
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   Troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension. Pt currently on Xigris so would not give IV Heparin due to
   bleeding risk, pt also not a candidate for cath given his instability.
   - consider add bblocker and ace if improves clinically and off pressors
   and asa once xygris off
   .
   ##. Bradycardic: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady last
   night
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   .
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers.
   -keep active type and screen
   -increase H2B to [**Hospital1 **]
   -guiac stool
   -likely dc xygris given falling hct
   .
   ##. Hypothyroidism: Will continue on home regimen of levothyroxine,
   switch back to po as pt improves
   .
   #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated
   -consider restart home psych meds
   -consider psych consult.
   .
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   .
   #? adrenal insufficiency: on dexamethasone 2mg at home, will wean
   hydrocort and restart dexamethasone at home dose.
   .
   # DM: will continue insulin gtt as pt too edematous to absorb sc
   insulin
   .
   # SW: will consult sw re concerns about pt's home situation
   .
   # FEN: replete electrolytes, f/u tube feed recs
   .
   # Prophylaxis: Subcutaneous heparin , bowel reg
   .
   # Access: Peripherals, Right IJ, A-line
   .
   # Code: DNR (? chemical code)
   .
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-11**] 01:38 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   18 Gauge - [**2121-9-8**] 10:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-12 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -got 500mg of vanc for trough of 15
   -continued on just levophed, weaning
   -did have bm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-11**] 07:57 PM
   Ciprofloxacin - [**2121-9-12**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-12**] 03:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Drotrecogin (Xigris) - 20 mcg/Kg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-11**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-12**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 67 (62 - 73) bpm
   BP: 120/54(75) {104/47(65) - 150/70(92)} mmHg
   RR: 9 (6 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 117.6 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 12 (8 - 14)mmHg
   Total In:
                                                                  2,792 mL
                                                                    996 mL
   PO:
   TF:
                                                                  1,005 mL
                                                                    337 mL
   IVF:
                                                                  1,697 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    635 mL
   Urine:
                                                                  1,890 mL
                                                                    635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    902 mL
                                                                    361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 582 (582 - 582) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 11 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.36/40/177/21/-2
   Ve: 11.1 L/min
   PaO2 / FiO2: 354
   Physical Examination
   Cardiovascular: gen: intubated, sedated, can open eyes
   cv: RRR
   resp: CTA anteriorly
   abd: soft, +BS, obese
   ext: sig b/l edema
   Labs / Radiology
   73 K/uL
   7.5 g/dL
   125 mg/dL
   4.5 mg/dL
   21 mEq/L
   4.0 mEq/L
   100 mg/dL
   106 mEq/L
   141 mEq/L
   22.3 %
   7.0 K/uL
        [image002.jpg]
                             [**2121-9-11**]  12:08 AM
                             [**2121-9-11**]  04:00 AM
                             [**2121-9-11**]  04:09 AM
                             [**2121-9-11**]  03:43 PM
                             [**2121-9-11**]  03:54 PM
                             [**2121-9-11**]  09:19 PM
                             [**2121-9-11**]  09:39 PM
                             [**2121-9-12**]  04:00 AM
                             [**2121-9-12**]  04:12 AM
                             [**2121-9-12**]  06:12 AM
   WBC
   5.5
   7.8
   7.3
   7.0
   Hct
   23.2
   23.9
   23.0
   22.3
   Plt
   55
   64
   76
   73
   Cr
   4.1
   4.2
   4.5
   TCO2
   23
   24
   24
   24
   24
   24
   Glucose
   110
   125
   Other labs: PT / PTT / INR:12.3/56.2/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:1.4 mmol/L, LDH:275 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ACIDOSIS, MIXED
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   .
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Found to have GNRs in sputum and VRE in urine. Per family pt has a
   history of PNA versus aspiration PNA, hospitalized three times over the
   past year
   - influenza antigen and legionella negative
   - weaning pressors, now just on levophed
   - will continue on broad coverage with Zosyn, Cipro. currently growing
   vre sensitive to amp, gnrs from sputum gram stain x2 and coag neg staph
   from blood (likely contaminant) from [**Location (un) **]. dc vancomycin today
   - f/u panculture results
   - will continue on IV Hydrocortisone, currently on 50q6h (=7.5 daily of
   decadron, pt on 2 daily of decadron at home) will switch to 25q6h
   - pt on xygris [**1-20**] high apache score, check [**Hospital1 **] coags. low threshold to
   dc xygris if any coag abnormalities. Xygris course done tomorrow.
   .
   ##. Respiratory Failure:
   - will aim to wean PSV today, will try [**9-27**]
   - lighten Fentanyl and Midazolam
   .
   # [**Last Name (un) 2406**]:  baseline 1.8-2, current Cr is 4.5 up from 4 yesterday. Likely
   this is [**1-20**] ATN. UOP has gone from low to high so perhaps renal
   function is in process of improving.
   -will trend
   -no acute indications for HD at this point
   -pt is on lasix at home, could consider giving lasix gtt once off
   pressors
   .
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension. Pt currently on Xigris so would not give IV Heparin due to
   bleeding risk, pt also not a candidate for cath given his instability.
   - consider add bblocker and ace if improves clinically and off pressors
   and asa once xygris off
   .
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady last
   night
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   .
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, hct
   stable.
   -keep active type and screen
   -switched to PPI
   -stool guiac negative
   .
   ##. Hypothyroidism: Will continue on home regimen of levothyroxine,
   switch back to po as pt improves
   .
   #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated
   -consider restart home psych med
   -consider psych consult.
   .
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   #? adrenal insufficiency: on dexamethasone 2mg at home, will wean
   hydrocort and restart dexamethasone at home dose.
   .
   # DM: will continue insulin gtt as pt too edematous to absorb sc
   insulin. Will switch to subcutaneous once off pressors
   .
   .# SW: will consult sw re concerns about pt's home situation
   .
   # FEN: replete electrolytes, tube feeds at goal
   .
   # Prophylaxis: Subcutaneous heparin , bowel reg
   .
   # Access: Peripherals, Right IJ, A-line
   .
   # Code: DNR (chemical code ok)
   .
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-12**] 01:28 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-13 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -discontinued vancomycin and weaned hydrocortisone to 25 mg q 6hr
   -xigris discontinued
   -insulin drip changed from gtt to SQ
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-11**] 07:57 PM
   Ciprofloxacin - [**2121-9-13**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-13**] 02:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-12**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-13**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96
   HR: 56 (55 - 68) bpm
   BP: 138/55(83) {104/47(65) - 142/93(102)} mmHg
   RR: 14 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 115.7 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 7 (6 - 12)mmHg
   Total In:
                                                                  2,410 mL
                                                                    751 mL
   PO:
   TF:
                                                                  1,083 mL
                                                                    327 mL
   IVF:
                                                                  1,327 mL
                                                                    424 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    590 mL
   Urine:
                                                                  2,025 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    385 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 860 (755 - 910) mL
   PS : 15 cmH2O
   RR (Spontaneous): 7
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.36/47/161/24/0
   Ve: 5.5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   67 K/uL
   7.5 g/dL
   201 mg/dL
   4.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   97 mg/dL
   109 mEq/L
   143 mEq/L
   22.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2121-9-11**]  09:39 PM
                             [**2121-9-12**]  04:00 AM
                             [**2121-9-12**]  04:12 AM
                             [**2121-9-12**]  06:12 AM
                             [**2121-9-12**]  03:32 PM
                             [**2121-9-12**]  03:55 PM
                             [**2121-9-12**]  09:11 PM
                             [**2121-9-12**]  10:35 PM
                             [**2121-9-13**]  04:28 AM
                             [**2121-9-13**]  05:01 AM
   WBC
   7.0
   7.9
   Hct
   22.3
   21.7
   23.0
   22.8
   Plt
   73
   67
   Cr
   4.5
   4.2
   TCO2
   24
   24
   24
   25
   24
   28
   Glucose
   125
   201
   Other labs: PT / PTT / INR:11.6/32.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:1.4 mmol/L, LDH:275 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.7 mg/dL, PO4:5.4 mg/dL
   Imaging: Single AP chest radiograph compared to [**2121-9-11**] shows
   unchanged left
   mid lower lung consolidation. Right lower lobe airspace opacity and
   perihilar
   hazziness continues to improve compatible with decreased fluid
   overload. The
   cardiomediastinal contour is stable. There is no pneumothorax. Right IJ
   central venous catheter tip overlies the proximal SVC. NG tube tip is
   in the
   stomach. ET tube terminates 3 cm above the carina.
   Microbiology: [**2121-9-12**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2121-9-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2121-9-10**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   {YEAST, GRAM NEGATIVE ROD(S)} INPATIENT
   [**2121-9-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2121-9-10**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2121-9-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2121-9-9**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL {YEAST,
   GRAM NEGATIVE ROD(S)} INPATIENT
   [**2121-9-9**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2121-9-9**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2121-9-8**]  Influenza A/B by DFA DIRECT INFLUENZA A ANTIGEN TEST-FINAL;
   DIRECT INFLUENZA B ANTIGEN TEST-FINAL INPATIENT
   [**2121-9-8**]  MRSA SCREEN MRSA SCREEN-FINAL {POSITIVE FOR METHICILLIN
   RESISTANT STAPH AUREUS} INPATIENT
   [**2121-9-8**]  URINE URINE CULTURE-FINAL {ENTEROCOCCUS SP.} INPATIENT
   [**2121-9-8**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ACIDOSIS, MIXED
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ACIDOSIS, MIXED
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   .
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Found to have GNRs in sputum and VRE in urine. Per family pt has a
   history of PNA versus aspiration PNA, hospitalized three times over the
   past year
   - influenza antigen and legionella negative
   - weaning pressors, now just on levophed
   - will continue on broad coverage with Zosyn, Cipro. currently growing
   vre sensitive to amp, gnrs from sputum gram stain x2 and coag neg staph
   from blood (likely contaminant) from [**Location (un) **]. dc'ed vancomycin
   yesterday
   - f/u panculture results
   - will continue on IV Hydrocortisone, currently on 25q6h (=3.75 daily
   of decadron, pt on 2 daily of decadron at home) will wean today
   - pt finished course of xygris yesterday.
   .
   ##. Respiratory Failure:
   - will aim to wean PSV today, will try [**9-27**] (was unsuccessful
   yesterday)
   - off sedation
   .
   # [**Last Name (un) 2406**]:  baseline 1.8-2, current Cr is 4.2 down from 4.5 yesterday.
   Likely this is [**1-20**] ATN. UOP has gone from low to high so perhaps renal
   function is in process of improving.
   -will trend
   -no acute indications for HD at this point
   -pt is on lasix at home, could consider giving lasix gtt once off
   pressors
   .
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension.
   - consider add bblocker and ace if improves clinically and off pressors
   -consider starting ASA now that xigris is off
   .
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady 2
   nights ago
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   .
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, hct
   stable.
   -keep active type and screen
   -on PPI
   -stool guiac negative
   .
   ##. Hypothyroidism: Will continue on home regimen of levothyroxine,
   switch back to po as pt improves
   .
   #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated
   -consider restart home psych med now that sedation off
   -consider psych consult.
   .
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   #? adrenal insufficiency: on dexamethasone 2mg at home, will wean
   hydrocort and restart dexamethasone at home dose.
   .
   # DM: switched to insulin SQ yesterday b/c labile BS. If BS not well
   controlled, can switch back to gtt (? if edema will limit absorption).
   .
   .# SW: will consult sw re concerns about pt's home situation
   .
   # FEN: replete electrolytes, tube feeds at goal
   .
   # Prophylaxis: Subcutaneous heparin , bowel reg
   .
   # Access: Peripherals, Right IJ, A-line
   .
   # Code: DNR (chemical code ok)
   .
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-12**] 11:36 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2121-09-13 11:58:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: shock and respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off pressors.
   Drotrecogin d/c'd given drop in Hct.
   Steorids weaned.
   vanco d/c'd.
   insulin converted to SQ.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-11**] 07:57 PM
   Ciprofloxacin - [**2121-9-13**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-13**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-12**] 10:00 PM
   Other medications:
   levothyroxine, zosyn, cipro, ppi, hydrocort, CHG, colace, senna,
   lactulose, MDIs
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-13**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.2
C (95.4
   HR: 57 (53 - 68) bpm
   BP: 129/57(79) {104/47(65) - 146/61(88)} mmHg
   RR: 12 (7 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 115.7 kg (admission): 100 kg
   Height: 71 Inch
   CVP: 13 (4 - 13)mmHg
   Total In:
                                                                  2,410 mL
                                                                    969 mL
   PO:
   TF:
                                                                  1,083 mL
                                                                    482 mL
   IVF:
                                                                  1,327 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    870 mL
   Urine:
                                                                  2,025 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    385 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 860 (755 - 910) mL
   PS : 10 cmH2O
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.36/47/161/24/0
   Ve: 5.5 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Obese
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   7.5 g/dL
   67 K/uL
   201 mg/dL
   4.2 mg/dL
   24 mEq/L
   3.7 mEq/L
   97 mg/dL
   109 mEq/L
   143 mEq/L
   22.8 %
   7.9 K/uL
        [image002.jpg]
                             [**2121-9-11**]  09:39 PM
                             [**2121-9-12**]  04:00 AM
                             [**2121-9-12**]  04:12 AM
                             [**2121-9-12**]  06:12 AM
                             [**2121-9-12**]  03:32 PM
                             [**2121-9-12**]  03:55 PM
                             [**2121-9-12**]  09:11 PM
                             [**2121-9-12**]  10:35 PM
                             [**2121-9-13**]  04:28 AM
                             [**2121-9-13**]  05:01 AM
   WBC
   7.0
   7.9
   Hct
   22.3
   21.7
   23.0
   22.8
   Plt
   73
   67
   Cr
   4.5
   4.2
   TCO2
   24
   24
   24
   25
   24
   28
   Glucose
   125
   201
   Other labs: PT / PTT / INR:11.6/32.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:1.4 mmol/L, LDH:275 IU/L,
   Ca++:7.1 mg/dL, Mg++:2.7 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR not particularly changed
   Assessment and Plan
   74-year-old man with respiratory failure, septic shock (now off
   pressors), NSTEMI related to demand, anemia, thrombocytopenia, and
   acute renal failure.  He has made substantial progress.
   Respiratory failure
 diurese today.  We will try an SBT (RSBI 60s),
   though he may derecruit.  Continue antibiotics for pneumonia, and
   follow cultures.
   Shock
 resolved
   Acute renal failure
 likely due to ATN.  Non-oliguric.
   Anemia
 PM Hct.  On PPI given prior hx of ulcers.
   NSTEMI
 start aspirin.  If HR stays non-bradycardic, consider beta
   blockade.
   ICU Care
   Nutrition: hold TF for SBT
   Glycemic Control:  Comments: SQ insulin
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT: Boots(add SQH)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2121-09-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - all pressors off
   - patient did OK on 0/5 trial. Will attempt to wean vent today.
   - started subQ heparin and restarted ASA
   - some bloody secretions
   - holding Bblocker and ACEi b/c of bradycardia and renal function
   respectively
   - on lasix 40mg PO BID at home; goal of 1.5 liters diuresis today, gave
   40mg IV lasix in AM only 250 cc negative by 7pm. Gave additional 40mg
   IV lasix
   -RSBI 33; lots of secretions and poor mental status. will try SBT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2121-9-11**] 07:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-14**] 01:10 AM
   Ciprofloxacin - [**2121-9-14**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-13**] 09:27 PM
   Heparin Sodium (Prophylaxis) - [**2121-9-13**] 09:27 PM
   Furosemide (Lasix) - [**2121-9-13**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.5
   HR: 61 (53 - 82) bpm
   BP: 136/58(82) {104/41(58) - 146/62(88)} mmHg
   RR: 14 (9 - 18) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.5 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 14 (4 - 15)mmHg
   Total In:
                                                                  1,438 mL
                                                                    418 mL
   PO:
   TF:
                                                                    557 mL
                                                                     49 mL
   IVF:
                                                                    832 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    365 mL
   Urine:
                                                                  1,960 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -522 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 735 (537 - 735) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.40/45/81.[**Numeric Identifier **]/26/1
   Ve: 7.1 L/min
   PaO2 / FiO2: 162
   Physical Examination
   gen: intubated
   cv: rrr
   resp: cta anteriorly
   abd: obese, +BS
   ext: pitting edema
   Labs / Radiology
   91 K/uL
   7.3 g/dL
   105 mg/dL
   4.6 mg/dL
   26 mEq/L
   3.6 mEq/L
   103 mg/dL
   107 mEq/L
   149 mEq/L
   21.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2121-9-12**]  03:55 PM
                             [**2121-9-12**]  09:11 PM
                             [**2121-9-12**]  10:35 PM
                             [**2121-9-13**]  04:28 AM
                             [**2121-9-13**]  05:01 AM
                             [**2121-9-13**]  12:17 PM
                             [**2121-9-13**]  03:31 PM
                             [**2121-9-13**]  06:38 PM
                             [**2121-9-14**]  12:03 AM
                             [**2121-9-14**]  04:32 AM
   WBC
   7.9
   6.5
   5.4
   Hct
   23.0
   22.8
   22.4
   21.6
   Plt
   67
   79
   91
   Cr
   4.2
   4.4
   4.6
   TCO2
   25
   24
   28
   25
   25
   29
   Glucose
   [**Telephone/Fax (3) 8454**]
   Other labs: PT / PTT / INR:12.0/34.6/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:1.4 mmol/L, LDH:275 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.7 mg/dL, PO4:5.0 mg/dL
   Microbiology:    GRAM STAIN (Final [**2121-9-10**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
      RESPIRATORY CULTURE (Preliminary):
         Further incubation required to determine the presence or absence
   of
         commensal respiratory flora.
         YEAST.    MODERATE GROWTH.
         ACINETOBACTER BAUMANNII COMPLEX.    SPARSE GROWTH.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                ACINETOBACTER BAUMANNII COMPLEX
                                |
   AMPICILLIN/SULBACTAM--  =>32 R
   CEFEPIME--------------    32 R
   CEFTAZIDIME-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------     8 I
   IMIPENEM--------------     2 S
   TOBRAMYCIN------------   <=1 S
   TRIMETHOPRIM/SULFA----  =>16 R
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 ACIDOSIS, METABOLIC
 ACIDOSIS, MIXED
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SHOCK, SEPTIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   .
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Found to have GNRs in sputum and VRE in urine. Per family pt has a
   history of PNA versus aspiration PNA, hospitalized three times over the
   past year
   - influenza antigen and legionella negative
   - off pressors since this AM
   - currently on zosyn/[**Last Name (LF) **], [**First Name3 (LF) 116**] broaden zosyn to [**Last Name (un) **] given
   acinetobacter in sputum s to imi and tobra only. currently growing vre
   sensitive to amp for which ID would like to start linezolid and coag
   neg staph from blood (likely contaminant) from [**Location (un) **]. dc'ed
   vancomycin yesterday
   - f/u panculture results
   - will continue on IV Hydrocortisone, currently on 25q6h, will space to
   25q8 today (=2.8 daily of decadron, pt on 2 daily of decadron at home)
   - pt completed xygris course
   .
   ##. Respiratory Failure:
   - will aim for SBT today
   - off sedation
   .
   # [**Last Name (un) 2406**]:  baseline 1.8-2, current Cr is 4.6, was 4.2 yesterday prior to
   diuresis but increased slightly over course of the day.
   -will trend
   -no acute indications for HD at this point
   -pt is on 40mg lasix PO BID at home; will continue gentle diuresis c
   lasix gtt
   -if renal function does not improve, will consult renal
   .
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension.
   - consider add bblocker and ace pending improvement of bradycardia and
   RF respectively
   - restart ASA now that xigris is off
   .
   #hypernatremia: hypernatremic to 149 this am. will increase free water
   in tube feeds.
   .
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady 2
   nights ago
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   .
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, hct
   stable.
   -keep active type and screen
   -on PPI
   -stool guiac negative
   .
   #. Hypothyroidism: Will continue on home regimen of levothyroxine,
   switch back to po as pt improves
   .
   #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated
   -consider restart home psych med now that sedation off
   -consider psych consult when extubated.
   .
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   #? adrenal insufficiency: on dexamethasone 2mg at home, will continue
   to wean hydrocort slowly and restart dexamethasone at home dose.
   .
   # DM: now back on insulin SQ, may need to tighten ss
   .
   # SW: will consult sw re concerns about pt's home situation
   .
   # FEN: replete electrolytes, tube feeds at goal
   .
   # Prophylaxis: Subcutaneous heparin , bowel reg
   .
   # Access: Right IJ, A-line
   .
   # Code: DNR (chemical code ok)
   .
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-14**] 02:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (chemical code ok)
   Disposition:

2121-09-15 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2121-9-14**] 01:18 PM
 URINE CULTURE - At [**2121-9-14**] 01:18 PM
   -talked to ID about how to cover both vre (urine) and acinetobacter
   (lungs), pt now on [**Last Name (un) **] for acinetobacter (day [**1-1**]) and linezolid for
   VRE day [**7-1**].
    -hypernatremic in the am, increased free water in tube feeds,
   afternoon sodium was corrected at 138, tube feed free water was
   decreased from 250q4h to 200q4h, now Na is 146.
   -transfused for hct of 21 which then bumped appropriately. repleting K
   gently given [**Last Name (un) 2406**]
   -plan to do SBT on hold given desats with  O2 sat in the high 80s. ABG
   was drawn and showed 7.26, pCO2 61, pO2 65. Pt was put on a rate of 20,
   PEEP was increased from 5->10. CXR was repeated which showed no change.
   Repeat ABG was 7.33/53/94
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-9-14**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-14**] 10:07 AM
   Meropenem - [**2121-9-15**] 12:29 AM
   Linezolid - [**2121-9-15**] 05:19 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-15**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.1
C (95.1
   HR: 59 (44 - 73) bpm
   BP: 137/56(82) {106/51(72) - 159/68(98)} mmHg
   RR: 20 (11 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 114.5 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 10 (10 - 303)mmHg
   Total In:
                                                                  2,160 mL
                                                                    706 mL
   PO:
   TF:
                                                                    268 mL
                                                                    224 mL
   IVF:
                                                                  1,118 mL
                                                                    482 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,385 mL
                                                                  1,225 mL
   Urine:
                                                                  3,385 mL
                                                                  1,225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,225 mL
                                                                   -518 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 341 (341 - 620) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 23 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 92%
   ABG: 7.40/45/84.[**Numeric Identifier 1132**]/24/1
   Ve: 9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Cardiovascular: General: Elderly Caucasian Male intubated in NARD.
   Psych: Localizes to pain, opens eyes to verbal stimuli
   Gen: elderly Caucasian male, no acute distress.  Breathing with mask
   HEENT: Sclera anicteric, MMM
   Neck: difficult to eval JVP given IJ
   Lungs: Crackles noted diffusely on anterior exam with diminished
   crackles over left lung field.
   CV: Borderline bradycardic (50), S1 + S2, no murmurs, rubs, gallops
   Abdomen: abdomen soft, ND, NT,  + bowel sounds present, no rebound
   tenderness or guarding
   Ext: 2+ edema noted in all extremities.
   Neurologic: responds appropriately to questions
   Labs / Radiology
   111 K/uL
   8.6 g/dL
   172 mg/dL
   4.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   104 mg/dL
   109 mEq/L
   146 mEq/L
   25.2 %
   4.4 K/uL
        [image002.jpg]
                             [**2121-9-14**]  12:03 AM
                             [**2121-9-14**]  04:32 AM
                             [**2121-9-14**]  08:00 AM
                             [**2121-9-14**]  12:00 PM
                             [**2121-9-14**]  04:00 PM
                             [**2121-9-14**]  04:23 PM
                             [**2121-9-14**]  06:33 PM
                             [**2121-9-14**]  07:23 PM
                             [**2121-9-15**]  03:46 AM
                             [**2121-9-15**]  04:05 AM
   WBC
   5.4
   4.4
   Hct
   21.6
   25.0
   25.2
   Plt
   91
   111
   Cr
   4.6
   4.6
   4.5
   TCO2
   29
   29
   29
   29
   Glucose
   105
   130
   113
   130
   172
   Other labs: PT / PTT / INR:12.0/35.5/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:1.4 mmol/L, LDH:275 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.8 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: ABG
    pH7.40
    pCO2 45
    pO2 84
   HCO329
    BaseXS1
   Iron studies pending
   Imaging: CXR - [**9-14**] Bilateral patchy air space opacities with improved
   aeration at the RLL and more confluent opacity in the left perihilar
   region. Unchanged bilateral
   pleural effusions. Stable lines and tubes.
   Microbiology: Blood cultures 9/22, [**9-10**], [**9-11**] - NGTD
   Urine culture [**9-10**] - no growth,
                         [**9-14**] - NGTD
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Found to have GNRs in sputum and VRE in urine. Per family pt has a
   history of PNA versus aspiration PNA, hospitalized three times over the
   past year
   - influenza antigen and legionella negative
   - off pressors
   - Broad coverage with  [**Last Name (un) **] given acinetobacter in sputum s to imi and
   tobra only. currently growing vre sensitive to amp/linizolid on started
   on  linezolid per ID recs.   coag neg staph from blood (likely
   contaminant) from [**Location (un) **]. Monitor for CBC as pt on linezolid
   - f/u pan culture results
   - will continue on IV Hydrocortisone, currently on 25q8 today (=2.8
   daily of decadron, pt on 2 daily of decadron at home)
   - pt completed xygris course
   ##. Respiratory Failure:
   - sats in the low 90s, repeat CXR showed left lung opacification,
   likely [**1-20**] to mucus plug.
   - trial of chest PT
   - rpt CXR
   - possible bronch if no improvement
   -defer trial of SBP until respiratory status improves
   - currently not on mechanical ventilation
   # [**Last Name (un) 2406**]:  baseline 1.8-2, current Cr is 4.5, was 4.6 yesterday prior to
   diuresis but increased slightly over course of the day.
   -will trend
   -no acute indications for HD at this point
   -pt is on 40mg lasix PO BID at home; will continue gentle diuresis c
   lasix gtt
   -if renal function does not improve, will consult renal
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension.
   - Would like to start  BB and ace, pending improvement of bradycardia
   and RF respectively
   - on  ASA now that xigris is off
   #hypernatremia: hypernatremic to 146 this am.  Likely due to tube
   feeding and hypotonic diuresis in setting of lasix ggt.
   - will increase free water in tube feeds to 250cc q4h (from 200cc q4h)
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady 2
   nights ago
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, hct
   stable.
   -keep active type and screen
   -stool guiac negative
   #. Hypothyroidism: Will continue on home regimen of levothyroxine,
   switch back to po as pt improves
   #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated, and in the setting of linezolid
   -consider restart home psych med now that sedation off
   -psych consult regarding holding of medications
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   #? adrenal insufficiency: on dexamethasone 2mg at home, will continue
   to wean hydrocort slowly and restart dexamethasone at home dose.
   # DM: now back on insulin SQ, may need to tighten ss
   # SW: consult regarding concerns about pt's home situation
   # FEN: replete electrolytes, tube feeds at goal
   # Prophylaxis: Subcutaneous heparin , bowel reg
   # Access: Right IJ, A-line
   # Code: DNR (chemical code ok)
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-14**] 12:16 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Error under Assessment and Plan
 Respiratory Failure.  Pt IS currently
   on respiratory support as indicated in the objective section.  He is
   off of sedation.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 34**], MD
   on:[**2121-9-15**] 15:41 ------
   Error under respiratory status.  No CXR opacification.    Pt likely to
   be fluid overloaded given h/o IVF fluid resuscitation.  [**Month (only) 11**] require
   more aggressive diuresis.  Plan is to repeat CXR to assess volume
   status.  Uptitrate diuresis to negative 1.5-2L daily.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 34**], MD
   on:[**2121-9-15**] 15:56 ------

2121-09-16 07:21:00 Physician Resident Progress Note
Chief Complaint: This is a 74 y.o. Male with h.o. hypothyroidism p/w
   septic shock, NSTEMI, hypothermia with suspected pulmonary versus urine
   source.
   24 Hour Events:
   -patient placed on Lasix drip with goal outs of (-)1.5 L for volume
   overload as potential etiology of respiratory failure.
   -increased free water flushes for elevated Na 146
   -repeat CXR: increased bilateral airspace consolidation and atelectasis
   with small bilateral pleural effusions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2121-9-14**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-14**] 10:07 AM
   Meropenem - [**2121-9-16**] 12:02 AM
   Linezolid - [**2121-9-16**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 9 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-15**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-16**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 68 (58 - 75) bpm
   BP: 154/55(83) {124/48(70) - 159/70(98)} mmHg
   RR: 18 (17 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 114.5 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 15 (1 - 15)mmHg
   Total In:
                                                                  3,549 mL
                                                                  1,414 mL
   PO:
   TF:
                                                                  1,020 mL
                                                                    318 mL
   IVF:
                                                                  1,153 mL
                                                                    596 mL
   Blood products:
   Total out:
                                                                  3,755 mL
                                                                  1,075 mL
   Urine:
                                                                  3,755 mL
                                                                  1,075 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -206 mL
                                                                    339 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 420) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 21 cmH2O
   Plateau: 21 cmH2O
   Compliance: 38.2 cmH2O/mL
   SpO2: 94%
   ABG: 7.44/46/77/29/5
   Ve: 8.2 L/min
   PaO2 / FiO2: 154
   Physical Examination
   Cardiovascular: Gen: NAD
   CV: RRR, no m/r/g, JVD
   Lungs: CTAB
   Ext: DP 2+ bilat, 2+ pitting edema
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   156 K/uL
   8.0 g/dL
   173 mg/dL
   4.4 mg/dL
   29 mEq/L
   3.6 mEq/L
   99 mg/dL
   110 mEq/L
   148 mEq/L
   24.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2121-9-14**]  12:00 PM
                             [**2121-9-14**]  04:00 PM
                             [**2121-9-14**]  04:23 PM
                             [**2121-9-14**]  06:33 PM
                             [**2121-9-14**]  07:23 PM
                             [**2121-9-15**]  03:46 AM
                             [**2121-9-15**]  04:05 AM
                             [**2121-9-15**]  08:05 PM
                             [**2121-9-15**]  11:49 PM
                             [**2121-9-16**]  02:33 AM
   WBC
   4.4
   5.8
   Hct
   25.0
   25.2
   24.5
   Plt
   111
   156
   Cr
   4.6
   4.5
   4.4
   4.4
   TCO2
   29
   29
   29
   32
   Glucose
   113
   130
   172
   188
   173
   Other labs: PT / PTT / INR:12.2/39.6/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.7 mg/dL, PO4:4.3 mg/dL
   Fluid analysis / Other labs: Iron: 116
   calTIBC: 142
   Ferritn: 879
   TRF: 109
   Imaging: CXR: [**2121-9-15**] -  Increased bilateral airspace consolidation and
   atelectasis with
   small bilateral pleural effusions.
   Microbiology: Blood cultures, negative or NGTD
   [**9-12**] - Cdiff negative
   [**9-14**] - Urine - no growth (final)
   [**9-14**] - Sputum - GNR
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. hypothyroidism p/w septic shock,
   NSTEMI, hypothermia with suspected pulmonary versus urine source.
   ##. Septic Shock: Pt noted to be in septic shock on admission to the
   ED. Found to have GNRs in sputum and VRE in urine. Per family pt has a
   history of PNA versus aspiration PNA, hospitalized three times over the
   past year.
   - influenza antigen and legionella negative
   - off pressors
   - Broad coverage with  [**Last Name (un) **] given acinetobacter in sputum s to imi and
   tobra only. currently growing vre sensitive to amp/linizolid on started
   on  linezolid per ID recs.   coag neg staph from blood (likely
   contaminant) from [**Location (un) **]. Monitor for CBC as pt on linezolid
   - will continue on IV Hydrocortisone, currently on 25q8 today (=2.8
   daily of decadron, pt on 2 daily of decadron at home)
   - pt completed xygris course
   - fluid overloaded from rescusitation.
   - last urine was clean, continue linezolid for 5 day course, Day 1 =
   [**9-14**]
   ##. Respiratory Failure:  Likely a combination of Acinetobacter PNA and
   volume overload from fluid rescussitation.
   - Sats maintained in low to mid 90s
   - no improvement in CXR, ? worsening
   - Sputum from [**9-14**] growing GNR, consistent with Acitenobacter
   -defer trial of SBP until respiratory status improves
   - continue aggressive diuresis
   # [**Last Name (un) 2406**]:  baseline 1.8-2, trending down slowly. 4.4 today.
   -will trend
   -volume overload will likely be indication for  HD, if unable to
   diurese
   -pt is on 40mg lasix PO BID at home; will continue gentle diuresis c
   lasix gtt
   -if renal function does not improve, will consult renal
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension.
   - Would like to start  BB and ace, pending improvement of bradycardia
   and RF respectively
   - on  ASA now that xigris is off
   #hypernatremia: hypernatremic to 146 this am.  Likely due to tube
   feeding and hypotonic diuresis in setting of lasix ggt.
   - will increase free water in tube feeds to 250cc q4h (from 200cc q4h)
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady 2
   nights ago
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, hct
   stable at 25.
   -keep active type and screen
   -stool guiac negative
   #. Hypothyroidism: Will continue on home regimen of levothyroxine,
   switch back to po as pt improves
   #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated, and in the setting of linezolid
   -consider restart home psych med now that sedation off
   -psych consult regarding holding of medications
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   # adrenal insufficiency: on dexamethasone 2mg at home, will continue to
   wean hydrocort slowly and restart dexamethasone at home dose.
   # DM: now back on insulin SQ, may need to tighten ss
   # SW: consult regarding concerns about pt's home situation
   # FEN: replete electrolytes, tube feeds at goal
   # Prophylaxis: Subcutaneous heparin , bowel reg
   # Access: Right IJ, A-line
   # Code: DNR (chemical code ok)
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-15**] 08:16 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-17 07:10:00 Physician Resident Progress Note
Chief Complaint: This is a 74 y.o. Male with h.o.
   hypothyroidism/?hypoadrenalism, paranoid schizophrenia  p/w septic
   shock, NSTEMI, hypothermia from acenetobacter pneumonia.
   24 Hour Events:
   - SW called team regarding pt's placement, insurance should cover
   rehab, his dispo after rehab will be pending SW at rehba facility
   -psych recs: don't give clozarel on top of linezolid given that
   combination can lead to myelosuppresion;  should ideally re-start it
   only after linezolid course complete (unclear how long linezolid
   effects last after stopping).  When he does wake up, can give
   prophenazine 4 mg [**Hospital1 **], with 2 mg PRN when agitated (PO).  If doesn't
   take PO, can take 0.5 IM haldol but monitor QTCs.  Avoid benzos.
   -continued on lasix drip
   -increased free water from 250 - 300 ccs q4 for hypernatremia:  PM
   sodium was 148
   -Repeat Na at 1215 AM was 150; got D5W bolus: Nutren 2.0 discontinued
   from his tube feeds given high sodium content and switched to
   Novasource.
   -Repeat HCT in AM; nurse [**First Name (Titles) 8493**] [**Last Name (Titles) **] in secretions was frank rather than
   old, HCT have been relatively stable all day.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2121-9-14**] 10:07 AM
   Meropenem - [**2121-9-16**] 11:57 AM
   Linezolid - [**2121-9-17**] 05:00 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2121-9-16**] 02:27 PM
   Heparin Sodium (Prophylaxis) - [**2121-9-17**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-17**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 58 (55 - 66) bpm
   BP: 163/59(88) {126/46(67) - 167/64(91)} mmHg
   RR: 14 (9 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 109.5 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 5 (4 - 11)mmHg
   Total In:
                                                                  3,973 mL
                                                                  1,872 mL
   PO:
   TF:
                                                                  1,081 mL
                                                                    289 mL
   IVF:
                                                                  1,242 mL
                                                                    983 mL
   [**Year (4 digits) 229**] products:
   Total out:
                                                                  4,405 mL
                                                                  1,990 mL
   Urine:
                                                                  3,845 mL
                                                                  1,990 mL
   NG:
                                                                    110 mL
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                   -432 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 727 (505 - 729) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 10
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 99%
   ABG: 7.42/52/86.[**Numeric Identifier **]/31/7
   Ve: 5.5 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   7.8 g/dL
   241 mg/dL
   3.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   98 mg/dL
   106 mEq/L
   146 mEq/L
   23.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2121-9-15**]  11:49 PM
                             [**2121-9-16**]  02:33 AM
                             [**2121-9-16**]  11:45 AM
                             [**2121-9-16**]  12:06 PM
                             [**2121-9-16**]  02:58 PM
                             [**2121-9-16**]  05:30 PM
                             [**2121-9-17**]  12:14 AM
                             [**2121-9-17**]  12:31 AM
                             [**2121-9-17**]  04:41 AM
                             [**2121-9-17**]  04:53 AM
   WBC
   5.8
   7.5
   Hct
   24.5
   23.7
   23.7
   Plt
   156
   217
   Cr
   4.4
   4.2
   4.1
   3.9
   TCO2
   32
   32
   34
   32
   34
   35
   Glucose
   173
   178
   132
   241
   Other labs: PT / PTT / INR:12.2/44.2/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:65.0 %, Band:21.0 %, Lymph:5.0 %, Mono:0.0 %,
   Eos:0.0 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.7 mg/dL, PO4:3.8 mg/dL
   Fluid analysis / Other labs: pH 7.42
   pCO2 52
   pO2 87
   HCO3 35
   BaseXS 7
   Imaging: CXR showed something...
   Microbiology: Sputum [**9-14**] - RESPIRATORY CULTURE  ACINETOBACTER
   BAUMANNII COMPLEX.    SPARSE GROWTH.
            IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 282
   0863K
         STAPH AUREUS COAG +.    SPARSE GROWTH.
   YEAST.    RARE GROWTH.
   All [**Month/Year (2) **] cultures negative to date
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is a 74 y.o. Male with h.o. paranoid schizophrenia,
   hypothyroidism, hypoadrenalism p/w septic shock, NSTEMI, hypothermia
   with suspected pulmonary versus urine source.
   ##. Respiratory Failure/PNA:  Likely a combination of Acinetobacter PNA
   and volume overload from fluid rescusitation.  Sputum cultuer from [**9-14**]
   also show Staph aureus.  Coag neg staph from [**Month/Year (2) **] (likely contaminant)
   from [**Location (un) **]. s/p course of  xygris .
   - Broad coverage with  [**Last Name (un) **] given acinetobacter in sputum s to imi and
   tobra only.
   - Start Vancomycin for Staph Aureus until sensitivities return
   - Call lab to confirm sensitivities will be obtained
   - no improvement in CXR, repeat AM CXR
   - Sputum from [**9-14**] growing Acinetobacter, Coag + Staph Aureus
   -defer trial of SBP until respiratory status improves
   - continue aggressive diuresis
   - influenza antigen and legionella negative
   # Urinary infection - Pt was growing VRE sensitive to Ampicillin and
   Linezolid.  Started on Linezolid per ID recs given pt was in septic
   shock.
   - His last urine was clean, continue Linezolid for 10 day course.  Day
   1= [**9-14**].
   - Monitor for CBC as pt on linezolid
   # [**Last Name (un) 2406**]:  baseline 1.8-2, trending down slowly. 3.9 today, 4.4
   yesterday.  Diuresing well.
   -will trend
   -volume overload will likely be indication for  HD, if unable to
   diurese
   -pt is on 40mg lasix PO BID at home; will continue gentle diuresis c
   lasix gtt
   -if renal function does not improve, will consult renal
   #hypernatremia: hypernatremic to 150 yesterday after increasing free
   water boluses through OG to 300  q 4hr.  Likely due to tube feeding and
   hypotonic diuresis in setting of lasix ggt.  He was given a bolus of
   D5W.   Tube feeds were changed from Nutren to Novasource which has less
   sodium.
   - continue free water in tube feeds at 300cc q 4h.
   - q8 sodium checks
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, 23.7
   down from 25.  Given history of recent MI, transfuse one unit.
   Guaic was negative.  Normocytic anemia, but high RDW.
   - hemolysis labs negative
   - no iron defiency
   - keep active type and screen
   - repeat stool guiac
   - serial Hct
   - f/u retic count
   - transfuse 1 unit
   - PPI
   # Hypertension
 Pt has systolic hypertension to 170s when awake.  Will
   follow him through the day, consider antihypertensive if continues to
   remain high.
   - on Lasix drip
   - no BB given bradycardia
   -  no ACEI given renal failure
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension.
   - Would like to start  BB and ace, pending improvement of bradycardia
   and RF respectively
   - on  ASA now that xigris is off
   - would like to start statin if no contraindication
   # #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated.
   - wil restart perphenazine when awake at 4 mg [**Hospital1 **], with 2 mg PRN when
   agitated (PO).
   - IM haldol if unable to tolerate PO
   - will not restart clozarin until linezolid course complete
   - SW following, he is OK for rehab upon d/c
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady 2
   nights ago
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   #. Hypothyroidism: Will continue on home regimen of levothyroxine
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   # adrenal insufficiency: on dexamethasone 2mg at home, will continue to
   wean hydrocort slowly and restart dexamethasone at home dose.
    - will continue on IV Hydrocortisone, taper to 25q12 today ( pt on 2
   daily of decadron at home  = 50mg IV hydrocortisone daily), titrate
   down today
   # DM: now back on insulin SQ - tighten ISS
   # SW: consult regarding concerns about pt's home situation
   # FEN: replete electrolytes, tube feeds at goal
   # Prophylaxis: Subcutaneous heparin , bowel reg
   # Access: Right IJ, A-line
   # Code: DNR (chemical code ok)
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2121-9-17**] 02:57 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-18 06:24:00 Physician Resident Progress Note
Chief Complaint:
   74 y.o. Male with h.o. hypothyroidism p/w septic shock, NSTEMI,
   hypothermia with suspected pulmonary versus urine source.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-9-17**] 02:30 PM
   - Sputum cultures grew MRSA in addition to Acinetobacter, sensitive to
   Linezolid MIC<2.
   - Hct rose appropriately to 26.6 after one unit.
   - Retic count 0.6 - y he is not doing better!
   - TTE: Overall left ventricular systolic function is low normal (LVEF
   50-55%). The right ventricular cavity is moderately dilated with normal
   free wall contractility.
   - Pt hypernatremic to 148, reduced Lasix gtt to 12
   - no psych recs today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-17**] 04:00 PM
   Meropenem - [**2121-9-18**] 12:09 AM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-18**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 57 (52 - 76) bpm
   BP: 164/59(88) {131/57(85) - 182/77(104)} mmHg
   RR: 13 (8 - 18) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 112 kg (admission): 100 kg
   Height: 71 Inch
    CVP: 6 (2 - 10)mmHg
   Total In:
                                                                  5,142 mL
                                                                    798 mL
   PO:
   TF:
                                                                  1,079 mL
                                                                    280 mL
   IVF:
                                                                  1,708 mL
                                                                    218 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,785 mL
                                                                  1,055 mL
   Urine:
                                                                  4,985 mL
                                                                  1,055 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -643 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 583 (583 - 848) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.45/51/73.[**Numeric Identifier **]/35/9
   Ve: 5.1 L/min
   PaO2 / FiO2: 146
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   247 K/uL
   9.2 g/dL
   184 mg/dL
   3.5 mg/dL
   35 mEq/L
   3.3 mEq/L
   94 mg/dL
   104 mEq/L
   148 mEq/L
   28.2 %
   9.9 K/uL
        [image002.jpg]
                             [**2121-9-16**]  12:06 PM
                             [**2121-9-16**]  02:58 PM
                             [**2121-9-16**]  05:30 PM
                             [**2121-9-17**]  12:14 AM
                             [**2121-9-17**]  12:31 AM
                             [**2121-9-17**]  04:41 AM
                             [**2121-9-17**]  04:53 AM
                             [**2121-9-17**]  02:22 PM
                             [**2121-9-17**]  10:25 PM
                             [**2121-9-18**]  01:29 AM
   WBC
   7.5
   9.9
   Hct
   23.7
   26.6
   28.2
   Plt
   217
   247
   Cr
   4.1
   3.9
   3.6
   3.5
   TCO2
   32
   34
   32
   34
   35
   37
   Glucose
   132
   241
   138
   184
   Other labs: PT / PTT / INR:12.2/44.2/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.5 mg/dL, PO4:3.8 mg/dL
   New Microbiology
   - sputum [**9-17**]
 PMN
   - sputum [**9-14**]
 MRSA, Acinetobacter, Yeast
   - urine [**9-14**]
 negative
   Old Microbiology
   - urine [**9-8**]
 enterococcus
   - sputum [**9-9**]
 GNR
 sparse growth
   Imaging
   - CXR [**9-17**]
 worsened bilateral pleural effusions and diffuse lung
   consolidations with superimposed oulmonary edema on background of
   multifocal consolidation
   Assessment and Plan
   This is a 74 y.o. Male with h.o. paranoid schizophrenia,
   hypothyroidism, hypoadrenalism p/w septic shock, NSTEMI, hypothermia
   with suspected pulmonary versus urine source.
   ##. Respiratory Failure/PNA:  Likely a combination of Acinetobacter PNA
   and pulm edema from fluid rescusitation.  Sputum culture from [**9-14**] also
   show Staph aureus.  Coag neg staph from blood (likely contaminant) from
   [**Location (un) **]. s/p course of  xygris .
   - Broad coverage with  [**Last Name (un) **] given acinetobacter in sputum s to imi and
   tobra only.
   - Linezolid for Staph Aureus until sensitivities return
   - Call lab to confirm sensitivities will be obtained
   - no improvement in CXR, repeat AM CXR
   - Sputum from [**9-14**] growing Acinetobacter, Coag + Staph Aureus
   - repeat Sputum
   -defer trial of SBP until respiratory status improves
   - continue aggressive diuresis
   - repeat ECHO to assess cardiac contribution to pulmonary edema
   - influenza antigen and legionella negative
   .
   # Hypertension
 Pt has systolic hypertension to 170s when awake.  Will
   follow him through the day, despite antihypertensives.
   - on Lasix drip
   - no BB given bradycardia
   -  no ACEI given renal failure
   - start hydral 10 po tid
   # Urinary infection - Pt was growing VRE sensitive to Ampicillin and
   Linezolid.  Started on Linezolid per ID recs given pt was in septic
   shock.
   - His last urine was clean, continue Linezolid for 7 day course.  Day
   1= [**9-14**].
   - Monitor for CBC as pt on linezolid
   # [**Last Name (un) 2406**]:  baseline 1.8-2, trending down slowly. 3.9 today, 4.4
   yesterday.  Diuresing well.
   -will trend
   -volume overload will likely be indication for  HD, if unable to
   diurese
   -pt is on 40mg lasix PO BID at home; will continue gentle diuresis c
   lasix gtt
   -if renal function does not improve, will consult renal
   - pm lytes
   #hypernatremia: hypernatremic to 150 yesterday after increasing free
   water boluses through OG to 300  q 4hr.  Likely due to tube feeding and
   hypotonic diuresis in setting of lasix ggt.  He was given a bolus of
   D5W.   Tube feeds were changed from Nutren to Novasource which has less
   sodium.
   - continue free water in tube feeds at 300cc q 4h.
   - q8 sodium checks
   # Anemia: pt
s crit trending down throughout admission. Likely [**1-20**]
   aggressive fluid hydration. Pt does also have h/o peptic ulcers, 23.7
   down from 25.  Given history of recent MI, transfuse one unit.
   Guaic was negative.  Normocytic anemia, but high RDW.
   - hemolysis labs negative
   - no iron defiency
   - keep active type and screen
   - repeat stool guiac
   - serial Hct
   - f/u retic count
   - transfuse 1 unit
   - PPI
   ##. MI: Pt showed no ischemic EKG changes in the ED but cardiac enzymes
   were noted to be positive with a CK of 1836, CKMB 230, CKMBI 12.5,
   troponin 0.06. TWI in I, avL, q in Lead III, small R-wave and aVF
   inferiorly. Pt ruled in, likely ischemic from his prolonged episode of
   hypotension.
   - Would like to start  BB and ace, pending improvement of bradycardia
   and RF respectively
   - on  ASA now that xigris is off
   - was not on a statin upon admission
   # #Schizophrenia: holding clozaril and perphenazine while intubated and
   sedated.
   - wil restart perphenazine when awake at 4 mg [**Hospital1 **], with 2 mg PRN when
   agitated (PO).
   - IM haldol if unable to tolerate PO
   - will not restart clozarin until linezolid course complete
   - SW following, he is OK for rehab upon d/c
   ##. Bradycardia: Pt noted to be bradycardic, requiring atropine in the
   field for HR in the 40s. Bradycardia initially thought to likely be due
   to his hypothermia. However, had additional episode of sinus brady 2
   nights ago
   -consider cards consult when pt clinically improved for ? sick sinus
   syndrome if pt has recurrent bradycardia
   - will continue to monitor heart rate on tele
   #. Hypothyroidism: Will continue on home regimen of levothyroxine
   #COPD: continue atrovent and albuterol prn, usually on nebs but will
   switch to inh while intubated.
   # adrenal insufficiency: on dexamethasone 2mg at home, will continue to
   wean hydrocort slowly and restart dexamethasone at home dose.
    - will continue on IV Hydrocortisone, taper to 25q12 today ( pt on 2
   daily of decadron at home  = 50mg IV hydrocortisone daily), titrate
   down today
   # DM: now back on insulin SQ - tighten ISS
   # SW: consult regarding concerns about pt's home situation
   # FEN: replete electrolytes, tube feeds at goal
   # Prophylaxis: Subcutaneous heparin , bowel reg
   # Access: Right IJ, A-line
   # Code: DNR (chemical code ok)
   # Disposition: ICU for now
   PCP Dr [**Last Name (STitle) 8406**] [**Telephone/Fax (1) 8407**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-18**] 03:02 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2121-9-8**] 10:10 PM
   Arterial Line - [**2121-9-8**] 10:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-20 07:09:00 Physician Resident Progress Note
Chief Complaint: 74 yom w/ paranoid schizophrenia, hypothyroidism,
   hypoadrenalism p/w septic shock due to Staph and acinetobacter
   pneumonia,  and  NSTEMI in the setting of sepsis.  Hospitalization
   complicated by acute on chornic renal failure, hypernatremia in the
   setting of diuresis, and hypertension.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2121-9-19**] 09:48 AM
   extubated!
   -free water flushes decreased now that sodium is improving
   -already met goal Is and Os; came down on the lasix
   -PM ABG was
   -started amlodipine; still on hydral,
   -talked to daughter [**Name (NI) 4551**] about code status; not officially health
   care proxy but she makes decisions along with her brother when he is
   unable to; states that she wants his code status changed back to FULL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-18**] 04:35 AM
   Meropenem - [**2121-9-20**] 12:43 AM
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-19**] 08:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-20**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.2
C (97.1
   HR: 55 (52 - 72) bpm
   BP: 110/43(59) {110/41(59) - 147/63(82)} mmHg
   RR: 16 (8 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 111.6 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,789 mL
                                                                    716 mL
   PO:
             TF:
                                                                    549 mL
                                                                    310 mL
   IVF:
                                                                    469 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,720 mL
                                                                    995 mL
   Urine:
                                                                  3,070 mL
                                                                    695 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -1,931 mL
                                                                   -279 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 518 (518 - 518) mL
   PS : 5 cmH2O
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 4.4 L/min
   Physical Examination
   Cardiovascular: Gen: NAD, extubated, breathing comfortably with face
   mask
   CV: RRR, no r/g/m, JVD not assessible
   Lungs: clear, intermittent crackles
   Abd: soft, NDNT, ABS
   Ext: trace edema, 2+ pulses bilat
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   298 K/uL
   8.1 g/dL
   167 mg/dL
   3.2 mg/dL
   38 mEq/L
   4.0 mEq/L
   89 mg/dL
   105 mEq/L
   146 mEq/L
   26.2 %
   7.6 K/uL
        [image002.jpg]
                             [**2121-9-17**]  02:22 PM
                             [**2121-9-17**]  10:25 PM
                             [**2121-9-18**]  01:29 AM
                             [**2121-9-18**]  08:54 AM
                             [**2121-9-18**]  12:59 PM
                             [**2121-9-18**]  03:56 PM
                             [**2121-9-18**]  11:09 PM
                             [**2121-9-19**]  03:44 AM
                             [**2121-9-19**]  04:33 PM
                             [**2121-9-20**]  04:07 AM
   WBC
   9.9
   9.4
   8.7
   7.6
   Hct
   26.6
   28.2
   26.6
   25.4
   28.0
   26.2
   Plt
   247
   284
   271
   298
   Cr
   3.6
   3.5
   3.2
   3.3
   3.2
   3.2
   TCO2
   37
   38
   38
   Glucose
   138
   184
   153
   188
   178
   167
   Other labs: PT / PTT / INR:11.8/42.4/1.0, Ca++:7.8 mg/dL, Mg++:2.6
   mg/dL, PO4:3.8 mg/dL
   Imaging: CXR - bilateral pleural effusions + pulm edema, R>L.  Improved
   from yesterday
   Microbiology: Blood cultures, negative to date
   Sputum [**9-17**] + GNR, consistent with Acinetobacter
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism p/w
   septic shock, NSTEMI and hypothermia with initial suspected pulmonary
   vs. urine source.
   ##. Respiratory Failure/PNA:  most recent positive cultures from [**9-14**]
   show Acinetobacter and MRSA with superimposed pulmonary edema and fluid
   overload which likely resulted from a combination of ATN and
   resuscitation.  Barriers to extubation include underlying infectious
   process, fluid overload, body habitus, muscle weakness.  Patient had a
   SBT yesterday with RSBI of 28.
   - continue meropenum (7 of 14) and linezolid  (7 of 14)
   - continue lasix gtt (titrated as low as possible) for continued
   diuresis + 18.5L for [**Location 4982**] f/u cultures and CXR
   - extubated
   # Hypertension
 patient with occasional HTN but has remained in the
   120
s for the past day.  His home dose ACE-I and BB are being held for
   his RF and bradycardia and he is currently being treated with
   hydralazine 10mg PO TID.
   - add Amlodipine 5 mg today and wean down PO hydralazine
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak to 3.2 from peak of 4.6
   - continue to trend Cr and UOP
   - continue minimal lasix gtt to achieve - 1.5L per day
   # Schizophrenia:   will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.  Hasn
   required prn doses, no agitation.
   # Urinary infection
 only urine Cx from [**9-8**] positive for VRE
   - continue Linezolid day [**6-24**]
   - monitor CBC for drug induced thrombocytopenia and pancytopenia
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - Na normalized, may decrease free water flushes
   # Anemia: patient with continued mildly dropping HCT from 28.2 -> 25.4
   over 1 day in the setting of known PUD.
   - re-guiac stool to r/o slow GIB
   - continue to trend daily HCT
s with transfusion if HCT < 23
 will
   avoid transfusion immediately post-extubation to prevent volume
   overload and respiratory strain
   #.Hypothyroidism: will continue on home regimen of levothyroxine,
   switching to PO to decrease free water
   # COPD: continue atrovent and albuterol
   # Adrenal insufficiency: patient transitioned to home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: replete electrolytes, tube feeds at goal, monitor hypernatremia
   # Prophylaxis: Subcutaneous heparin , bowel reg
   # Access: PICC line
   # Code: FULL
   # Disposition: ICU
 likely to the floor tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-19**] 02:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-21 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt alert and awake
   - BP good.  Was going to uptitrate amlodipine to 10 and d/c hydral.
   But if amlodipine is a AV nodal [**Doctor Last Name 23**], y can't we just use a BB which
   would be cardioprotective???
   - was unable to reach family regarding pt's baseline mental status
   - continues to have thick secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-20**] 12:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-21**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.1
C (96.9
   HR: 78 (54 - 78) bpm
   BP: 124/50(68) {108/41(57) - 153/58(80)} mmHg
   RR: 22 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107.3 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  2,705 mL
                                                                    758 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    315 mL
   IVF:
                                                                    405 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                    675 mL
   Urine:
                                                                  2,370 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     35 mL
                                                                     83 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///36/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   316 K/uL
   8.0 g/dL
   191 mg/dL
   3.1 mg/dL
   36 mEq/L
   3.9 mEq/L
   90 mg/dL
   102 mEq/L
   144 mEq/L
   25.8 %
   7.6 K/uL
        [image002.jpg]
                             [**2121-9-17**]  10:25 PM
                             [**2121-9-18**]  01:29 AM
                             [**2121-9-18**]  08:54 AM
                             [**2121-9-18**]  12:59 PM
                             [**2121-9-18**]  03:56 PM
                             [**2121-9-18**]  11:09 PM
                             [**2121-9-19**]  03:44 AM
                             [**2121-9-19**]  04:33 PM
                             [**2121-9-20**]  04:07 AM
                             [**2121-9-21**]  03:36 AM
   WBC
   9.9
   9.4
   8.7
   7.6
   7.6
   Hct
   28.2
   26.6
   25.4
   28.0
   26.2
   25.8
   Plt
   247
   284
   271
   298
   316
   Cr
   3.5
   3.2
   3.3
   3.2
   3.2
   3.1
   TCO2
   37
   38
   38
   Glucose
   184
   153
   188
   178
   167
   191
   Other labs: PT / PTT / INR:11.8/42.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism p/w
   septic shock, NSTEMI and hypothermia with initial suspected pulmonary
   vs. urine source.
   ##. Respiratory Failure/PNA:  most recent positive cultures from [**9-14**]
   show Acinetobacter and MRSA with superimposed pulmonary edema and fluid
   overload which likely resulted from a combination of ATN and
   resuscitation.  Barriers to extubation include underlying infectious
   process, fluid overload, body habitus, muscle weakness.  Patient had a
   SBT yesterday with RSBI of 28.
   - continue meropenum (7 of 14) and linezolid  (7 of 14)
   - continue lasix gtt (titrated as low as possible) for continued
   diuresis + 18.5L for [**Location 4982**] f/u cultures and CXR
   - extubated
   # Hypertension
 patient with occasional HTN but has remained in the
   120
s for the past day.  His home dose ACE-I and BB are being held for
   his RF and bradycardia and he is currently being treated with
   hydralazine 10mg PO TID.
   - add Amlodipine 5 mg today and wean down PO hydralazine
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak to 3.2 from peak of 4.6
   - continue to trend Cr and UOP
   - continue minimal lasix gtt to achieve - 1.5L per day
   # Schizophrenia:   will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.  Hasn
   required prn doses, no agitation.
   # Urinary infection
 only urine Cx from [**9-8**] positive for VRE
   - continue Linezolid day [**6-24**]
   - monitor CBC for drug induced thrombocytopenia and pancytopenia
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - Na normalized, may decrease free water flushes
   # Anemia: patient with continued mildly dropping HCT from 28.2 -> 25.4
   over 1 day in the setting of known PUD.
   - re-guiac stool to r/o slow GIB
   - continue to trend daily HCT
s with transfusion if HCT < 23
 will
   avoid transfusion immediately post-extubation to prevent volume
   overload and respiratory strain
   #.Hypothyroidism: will continue on home regimen of levothyroxine,
   switching to PO to decrease free water
   # COPD: continue atrovent and albuterol
   # Adrenal insufficiency: patient transitioned to home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: replete electrolytes, tube feeds at goal, monitor hypernatremia
   # Prophylaxis: Subcutaneous heparin , bowel reg
   # Access: PICC line
   # Code: FULL
   # Disposition: ICU
 likely to the floor tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-20**] 01:19 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-22 07:33:00 Physician Resident Progress Note
Chief Complaint: 74 yom w/ paranoid schizophrenia, hypothyroidism,
   hypoadrenalism a/w pneumo vs. urosepsis, now with sputum cultures
   positive for MRSA and acinetobacter.
   24 Hour Events:
   No acute overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-22**] 12:10 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-22**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 76 (56 - 84) bpm
   BP: 133/54(71) {102/39(57) - 133/54(71)} mmHg
   RR: 13 (11 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  2,637 mL
                                                                    539 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    338 mL
   IVF:
                                                                    402 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  2,590 mL
                                                                    675 mL
   Urine:
                                                                  2,590 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     47 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///34/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   300 K/uL
   7.6 g/dL
   210 mg/dL
   3.0 mg/dL
   34 mEq/L
   4.0 mEq/L
   91 mg/dL
   102 mEq/L
   144 mEq/L
   23.0 %
   6.0 K/uL
        [image002.jpg]
                             [**2121-9-18**]  01:29 AM
                             [**2121-9-18**]  08:54 AM
                             [**2121-9-18**]  12:59 PM
                             [**2121-9-18**]  03:56 PM
                             [**2121-9-18**]  11:09 PM
                             [**2121-9-19**]  03:44 AM
                             [**2121-9-19**]  04:33 PM
                             [**2121-9-20**]  04:07 AM
                             [**2121-9-21**]  03:36 AM
                             [**2121-9-22**]  02:39 AM
   WBC
   9.9
   9.4
   8.7
   7.6
   7.6
   6.0
   Hct
   28.2
   26.6
   25.4
   28.0
   26.2
   25.8
   23.0
   Plt
   247
   284
   271
   298
   316
   300
   Cr
   3.5
   3.2
   3.3
   3.2
   3.2
   3.1
   3.0
   TCO2
   38
   38
   Glucose
   184
   153
   188
   178
   167
   191
   210
   Other labs: PT / PTT / INR:11.8/42.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.9 mg/dL, PO4:3.5 mg/dL
   Microbiology
   - sputum [**9-14**]
 acinetobacter and MRSA
   - urine [**9-14**]
 negative
   Imaging
   - None
   Assessment and Plan
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism a/w
   pneumosepsis vs, urosepsis c/b by NSTEMI and acinetobacter MRSA PNA,
   now extubated but with continued elevated oxygen requirements.
   ##. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.
   - continue meropenum (9 of 14) and linezolid  (9 of 14)
   - transition to lasix boluses for continued diuresis goal of neg. 1 L /
   day
 remains + 18.9 for [**Location 4982**] limit free water flushes and IVF to assist in diuresis
   - f/u cultures and CXR
   - continue face mask with down titration as oxygen requirement permits
   # Hypertension
 patient with occasional HTN but has remained in the
   120
s for the past day.  His home dose ACE-I and BB are being held for
   his RF and bradycardia and he is currently being treated with
   hydralazine and amlodipine.
   - discontinue Hydralazine and add Amlodipine 10 mg q daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak to 3.0 from peak of 4.6
   - continue to trend Cr and UOP
   - limit daily fluid intake and transition to lasix bolus for goal of -
   1.0 L  per day
   # Schizophrenia:   will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - continue to monitor with daily electrolytes and titrate free water
   flushes in tube feeds PRN
   # Anemia: continued slow drop of HCT from 28 to 26.2 to 25.8 now 23 in
   the setting of known PUD.  Element of this could be dilutional with
   mobilization of fluid however other cell lines are not proportionately
   reduced.
   - re-guiac stool to r/o slow GIB
   - transfuse 1 unit PRBC
s for goal > 23
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: replete electrolytes, tube feeds at goal, monitor hypernatremia
   # Prophylaxis: Subcutaneous heparin , bowel reg, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: patient will likely benefit from transition to [**Hospital **]
   rehab as he requires significant nursing care with suctioning.- touch
   base with case management
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-21**] 11:29 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-23 06:38:00 Physician Resident Progress Note
Chief Complaint: 74 yom w/ paranoid schizophrenia, hypothyroidism,
   hypoadrenalism a/w pneumo vs. urosepsis, now with sputum cultures
   positive for MRSA and acinetobacter.
   24 Hour Events:
   - continue thick secretions requiring active frequent suctioning and
   close nursing care
   - metolazone (5 mg) added to lasix (15 mg/hr) drip to improve diuresis
 now 400 negative since yesterday, [**Numeric Identifier 8595**] positive  for LOS and nearly
   6 kg positive since admission weight
   - PT/OT consulted
   - transfused 1 unit PRBC
s with jump from 23 => 25.2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-23**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-23**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 67 (61 - 98) bpm
   BP: 106/42(58) {95/40(53) - 131/50(69)} mmHg
   RR: 13 (10 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 106.3 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  2,942 mL
                                                                    547 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    298 mL
   IVF:
                                                                    547 mL
                                                                    199 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,995 mL
                                                                    940 mL
   Urine:
                                                                  2,895 mL
                                                                    940 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                    -53 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool (15 L face tent
 FiO2 50%)
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   255 K/uL
   8.2 g/dL
   282 mg/dL
   3.0 mg/dL
   38 mEq/L
   3.7 mEq/L
   94 mg/dL
   98 mEq/L
   141 mEq/L
   25.2 %
   5.0 K/uL
        [image002.jpg]
                             [**2121-9-18**]  12:59 PM
                             [**2121-9-18**]  03:56 PM
                             [**2121-9-18**]  11:09 PM
                             [**2121-9-19**]  03:44 AM
                             [**2121-9-19**]  04:33 PM
                             [**2121-9-20**]  04:07 AM
                             [**2121-9-21**]  03:36 AM
                             [**2121-9-22**]  02:39 AM
                             [**2121-9-22**]  02:40 PM
                             [**2121-9-23**]  02:54 AM
   WBC
   9.4
   8.7
   7.6
   7.6
   6.0
   5.0
   Hct
   26.6
   25.4
   28.0
   26.2
   25.8
   23.0
   25.2
   Plt
   [**Telephone/Fax (2) 8592**]
   Cr
   3.2
   3.3
   3.2
   3.2
   3.1
   3.0
   2.9
   3.0
   TCO2
   38
   Glucose
   153
   188
   178
   167
   191
   210
   166
   282
   Other labs: PT / PTT / INR:11.8/42.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, LDH:275 IU/L,
   Ca++:7.5 mg/dL, Mg++:2.8 mg/dL, PO4:3.3 mg/dL
   Microbiology
   - sputum [**9-14**]
 MRSA (vancomycin), acinetobacter (meropenem)
   Imaging
   - CXR [**9-23**]
 improved aeration of bilateral lung fields, continued
   blunting of CP angles c/w bilateral effusions
   Assessment and Plan
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now extubated but continued thick [**Last Name (un) **] secretions
   and elevated oxygen requirements.
   ##. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.
   - continue meropenum (10 of 14) and linezolid  (10 of 14)
   - continue lasix drip with metolazone for goal of
 1L / day
   - continue face mask with down titration as oxygen requirement permits
   - continue chest-PT
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 3.0.  Cr remains
   constant despite aggressive diuresis.
   - continue Lasix gtt and Mitolazone diuresis for goal of
 1L / day
   - follow [**Hospital1 **] lytes
   # Schizophrenia:   will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - continue to monitor with daily electrolytes and titrate free water
   flushes, transition to 150 QID
   # Anemia: patient received 1 unit PRBC
s with slightly lower than
   expected HCT bump.  Patient has poor reticulocyte output suggestive
   marrow suppression or low epo as source.  Stool remains guiac negative.
   - continue to trend [**Hospital1 **] HCT and transfuse to goal > 23
   - consider EPO level in setting of CRF
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, tube feeds at goal
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: d/w case management placement into step down unit at
   Rehab as require significant level of nursing care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-22**] 09:42 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-24 07:01:00 Physician Resident Progress Note
Chief Complaint: 74 yom w/ paranoid schizophrenia, hypothyroidism,
   hypoadrenalism a/w pneumo vs. urosepsis, now with sputum cultures
   positive for MRSA and acinetobacter.
   24 Hour Events:
   - patient re-intubated
   - patient scheduled for trach / peg on thursday by [**Last Name (LF) **], [**First Name3 (LF) 116**] require
   dose of DDVAP prio.
   - renal: continue lasix and metolazone and adding acetazolamide for
   contraction alkalosis
   - urine output picked up s/p intubation with
3L for day
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-24**] 12:25 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2121-9-23**] 04:30 PM
   Midazolam (Versed) - [**2121-9-23**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2121-9-23**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-24**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.9
C (98.5
   HR: 67 (57 - 84) bpm
   BP: 97/38(53) {97/37(53) - 144/89(96)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 107 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,941 mL
                                                                    783 mL
   PO:
             TF:
                                                                    787 mL
                                                                    314 mL
   IVF:
                                                                    574 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  4,990 mL
                                                                    740 mL
   Urine:
                                                                  4,140 mL
                                                                    740 mL
   NG:
   Stool:
                                                                    350 mL
   Drains:
   Balance:
                                                                 -3,049 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 98%
   ABG: 7.49/58/400/41/18
   Ve: 7.4 L/min
   PaO2 / FiO2: 1,000
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   243 K/uL
   8.1 g/dL
   126 mg/dL
   2.9 mg/dL
   41 mEq/L
   3.1 mEq/L
   96 mg/dL
   99 mEq/L
   145 mEq/L
   25.0 %
   4.7 K/uL
        [image002.jpg]
                             [**2121-9-19**]  03:44 AM
                             [**2121-9-19**]  04:33 PM
                             [**2121-9-20**]  04:07 AM
                             [**2121-9-21**]  03:36 AM
                             [**2121-9-22**]  02:39 AM
                             [**2121-9-22**]  02:40 PM
                             [**2121-9-23**]  02:54 AM
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
   WBC
   8.7
   7.6
   7.6
   6.0
   5.0
   4.7
   Hct
   25.4
   28.0
   26.2
   25.8
   23.0
   25.2
   26.5
   25.0
   Plt
   271
   298
   316
   300
   255
   243
   Cr
   3.2
   3.2
   3.1
   3.0
   2.9
   3.0
   3.1
   2.9
   TCO2
   45
   Glucose
   178
   167
   191
   [**Telephone/Fax (3) 8605**]
   168
   126
   Other labs: PT / PTT / INR:11.8/42.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.3 mg/dL, Mg++:3.1 mg/dL, PO4:3.7 mg/dL
   Microbiology
   - sputum [**9-14**]
 MRSA (vancomycin), acinetobacter (meropenem)
   Imaging
   - CXR [**9-24**]
 stable pulmonary edema and effusions
   Assessment and Plan
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now extubated but continued thick [**Last Name (un) **] secretions
   and elevated oxygen requirements.
   ##. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  Patient now re-intubated for airway protection.
   - mental status: trach / peg scheduled for Thursday
   - pneumonia:  continue meropenum (11 of 14) and linezolid  (11 of 14)
   - pulmonary edema: continue lasix drip with metolazone  and
   acetazolamide for goal of  - 2L / day
 titrate to BP
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 3.0.  Cr remains
   constant despite aggressive diuresis.
   - continue Lasix gtt and Mitolazone and Acetazolamide diuresis for goal
   of
 2L / day, titrating as BP tolerates
   - follow [**Hospital1 **] lytes
   # Schizophrenia:   will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - continue to monitor with daily electrolytes and titrate free water
   flushes, transition to 200 QID
   # Anemia: patient received 1 unit PRBC
s with slightly lower than
   expected HCT bump.  Patient has poor reticulocyte output suggestive
   marrow suppression or low epo as source.  Stool remains guiac negative.
   - continue to trend [**Hospital1 **] HCT and transfuse PRN to goal > 23
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, tube feeds at goal
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: d/w case management placement into step down unit at
   Rehab as require significant level of nursing care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-23**] 06:30 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-25 06:28:00 Physician Resident Progress Note
Chief Complaint: 74 yom w/ paranoid schizophrenia, hypothyroidism,
   hypoadrenalism a/w pneumo vs. urosepsis, now with sputum cultures
   positive for MRSA and acinetobacter.
   24 Hour Events:
   - trach and peg scheduled for tomorrow, may require DDAVP prior to
   procedure
   - TTE: LVEF > 55% with likely normal regional systolic function
   - left submandibular mass noticed by nursing, overlying skin is
   slightly erythematous and warm, appears to be tender, unable to explore
   mouth but patient has h/o poor dentition - non-contrast CT: no
   calcifications intraparotid lymph node, two submandibular lymph nodes
   with surrounding inflammation, asymmetric enlargement of
   parotid and submandibular glands
   - should receive ENT consult in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-24**] 05:00 PM
   Meropenem - [**2121-9-25**] 12:13 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2121-9-24**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2121-9-24**] 05:00 PM
   Midazolam (Versed) - [**2121-9-24**] 05:15 PM
   Fentanyl - [**2121-9-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-25**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 56 (53 - 79) bpm
   BP: 125/53(69) {100/43(56) - 139/92(100)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 107 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  2,390 mL
                                                                    517 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    289 mL
   IVF:
                                                                    450 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    925 mL
   Urine:
                                                                  2,060 mL
                                                                    925 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    330 mL
                                                                   -408 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 903 (903 - 903) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 24 cmH2O
   Plateau: 14 cmH2O
   SpO2: 97%
   ABG: ///42/
   Ve: 4.3 L/min
   Physical Examination
   General: NAD
   ENT: large firm submandibular mass with overlying warmth and erythema,
   tender
   Chest: CTAB
   Heart: RRR no MRG
   Abdomen: soft, NTND
   Extremities: NT, WWP, 2+ PE
   Labs / Radiology
   237 K/uL
   7.6 g/dL
   150 mg/dL
   2.8 mg/dL
   42 mEq/L
   3.4 mEq/L
   87 mg/dL
   101 mEq/L
   146 mEq/L
   24.7 %
   5.7 K/uL
        [image002.jpg]
                             [**2121-9-20**]  04:07 AM
                             [**2121-9-21**]  03:36 AM
                             [**2121-9-22**]  02:39 AM
                             [**2121-9-22**]  02:40 PM
                             [**2121-9-23**]  02:54 AM
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
   WBC
   7.6
   7.6
   6.0
   5.0
   4.7
   4.9
   5.7
   Hct
   26.2
   25.8
   23.0
   25.2
   26.5
   25.0
   24.4
   24.7
   Plt
   298
   316
   300
   255
   243
   227
   237
   Cr
   3.2
   3.1
   3.0
   2.9
   3.0
   3.1
   2.9
   2.8
   2.8
   TCO2
   45
   Glucose
   167
   191
   210
   166
   282
   168
   126
   141
   150
   Other labs: PT / PTT / INR:11.6/33.5/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.3 mg/dL, Mg++:3.1 mg/dL, PO4:3.7 mg/dL
   Microbiology
   - sputum [**9-14**]
 MRSA (vancomycin), acinetobacter (meropenem)
   Imaging
   - CXR [**9-24**]
 ET tube 5 cm above carina, NGT in proximal stomach should
   be advanced 10 cm, bibasilar atelectasis, mild unchanged pulmonary
   edema, stable bilateral pleural effusions
   - CT neck [**9-24**]
 see above
   Assessment and Plan
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now re-intubated for airway protection do to
   continued respiratory secretions and tiring cough.
   #. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  Barriers to extubation include excess secretions and
   airway protection, fluid overload, mental status.
   - mental status: trach / peg today
   - pneumonia:  continue meropenum (12 of 14) and linezolid  (12 of 14)
   - pulmonary edema: continue lasix drip with diuril  and acetazolamide
   for goal of  - 2L / day
 titrating to BP
   # Neck Mass: concern for infection given tenderness of adenopathy,
   overlying erythema and warmth.  Mass appears to be caudal and lateral
   to airway and do not anticipate any problems with trach
   - ENT consult re: course of further evaluation
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 2.8.  Cr remains
   constant despite aggressive diuresis.  Of note patient is s/p prior
   nephrectomy.
   - continue diuresis as discussed above
   - follow [**Hospital1 **] lytes
   # Schizophrenia:  will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - [**Hospital1 **] lytes and titrate free water flushes, transition to 200 QID for
   Na of 145
   # Anemia: poor reticulocyte output suggestive marrow suppression or low
   epo as source.  Stool remains guiac negative.
   - trend [**Hospital1 **] HCT and transfuse PRN to goal > 23
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol nebs
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, tube feeds held for procedure
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: d/w case management placement into step down unit at
   Rehab as requires significant level of nursing care
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-24**] 04:43 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-25 10:41:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2121-9-24**] 02:28 PM
   -CT Neck--extensive adenopathy noted in region of enlarging neck mass
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-24**] 05:00 PM
   Meropenem - [**2121-9-25**] 12:13 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-24**] 05:00 PM
   Midazolam (Versed) - [**2121-9-24**] 05:15 PM
   Fentanyl - [**2121-9-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-25**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.1
   HR: 54 (51 - 79) bpm
   BP: 108/51(65) {100/43(56) - 139/92(100)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 107 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  2,391 mL
                                                                    727 mL
   PO:
             TF:
                                                                  1,080 mL
                                                                    315 mL
   IVF:
                                                                    451 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                  1,575 mL
   Urine:
                                                                  2,060 mL
                                                                  1,575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    331 mL
                                                                   -848 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 903 (903 - 903) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 21 cmH2O
   Plateau: 13 cmH2O
   SpO2: 97%
   ABG: ///42/
   Ve: 8 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Endotracheal tube, Increased area of swelling
   in neck region overnight
this is left sided and in region of parotid
   gland with extension to sub-mandibular area
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   237 K/uL
   150 mg/dL
   2.8 mg/dL
   42 mEq/L
   3.4 mEq/L
   87 mg/dL
   101 mEq/L
   146 mEq/L
   24.7 %
   5.7 K/uL
         [image002.jpg]
                             [**2121-9-20**]  04:07 AM
                             [**2121-9-21**]  03:36 AM
                             [**2121-9-22**]  02:39 AM
                             [**2121-9-22**]  02:40 PM
                             [**2121-9-23**]  02:54 AM
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
   WBC
   7.6
   7.6
   6.0
   5.0
   4.7
   4.9
   5.7
   Hct
   26.2
   25.8
   23.0
   25.2
   26.5
   25.0
   24.4
   24.7
   Plt
   298
   316
   300
   255
   243
   227
   237
   Cr
   3.2
   3.1
   3.0
   2.9
   3.0
   3.1
   2.9
   2.8
   2.8
   TCO2
   45
   Glucose
   167
   191
   210
   166
   282
   168
   126
   141
   150
   Other labs: PT / PTT / INR:11.6/33.5/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.3 mg/dL, Mg++:3.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CT Neck--see HPI
   CXR--no new
   Microbiology: Sputum--[**9-14**]--MRSA and Acinetobacter
   Assessment and Plan
   78 yo male admit with sepsis now with persistent respiratory failure
   and move to trach and PEG today.  Importantly he has had evolution of
   his neck mass and CT scan showing adenopathy.
   1)Respiratory Failure-He is limited by substantial secretions,
   persistent volume overload and altered mental status and difficulty
   with compliance with previous attempts at extubation.
   -Diamox/Lasix 10mg//hr for volume
   -Goal 2 liters negative
   -Will continue broad spectrum ABX
   -Will suction PRN now
   -Will pursue trach/PEG today
   -ENT to eval neck mass and plan going forward
will have to assure IP
   comfort with tracheostomy in light of new mass.
   2)Sepsis-Off pressors, able to pursue diuresis
   -Meropenem
   -Diruesis
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: NPO for procedure
will resume with G-tube in place
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2121-09-26 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2121-09-26 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2121-9-25**] 10:30 AM
   -trach was placed; on ASSIST control ventilation
   -PEG could not be placed with IP secondary to difficulties they had w/
   transillumination.  GI consulted; they will place endoscopically guided
   PEG tube tomorrow AM.  NPO after midnight.
   -PM HCT stable: 24 -> 23
   -evening Is Os: net -1 L balance which is at goal (no metolazone was
   necessary)
   -ENT consulted: they felt his parotitis likely secondary to low PO
   intake, low secretion of salivation.  Recommended warm compresses q4
   hours and massage; also suggested [**Doctor Last Name 8639**] juice but we held on this
   because of risk of aspiration.
   -increased dose of acetozolamide
   -ddAVP given prior to trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-24**] 05:00 PM
   Meropenem - [**2121-9-25**] 02:00 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2121-9-25**] 04:00 PM
   Midazolam (Versed) - [**2121-9-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-26**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 58 (50 - 66) bpm
   BP: 106/50(63) {75/40(50) - 123/58(74)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,882 mL
                                                                    146 mL
   PO:
             TF:
                                                                    315 mL
   IVF:
                                                                  1,167 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    520 mL
   Urine:
                                                                  3,455 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,573 mL
                                                                   -374 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 94%
   ABG: ///37/
   Ve: 7.5 L/min
   Physical Examination
   Cardiovascular: Gen: NAD
   HEENT: large, firm non tender mass on left parotid. warm
   CV: RRR, nl S1,S2
   Lungs: reduced breath sounds at bases
   Abd: soft, ND, NT ABS
   Ext: 2+ edema bilaterally, upper and lower extremities.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   6.9 g/dL
   231 mg/dL
   2.9 mg/dL
   37 mEq/L
   3.2 mEq/L
   86 mg/dL
   100 mEq/L
   145 mEq/L
   21.8 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-9-22**]  02:39 AM
                             [**2121-9-22**]  02:40 PM
                             [**2121-9-23**]  02:54 AM
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
   WBC
   6.0
   5.0
   4.7
   4.9
   5.7
   4.9
   Hct
   23.0
   25.2
   26.5
   25.0
   24.4
   24.7
   23.0
   21.8
   Plt
   300
   255
   243
   227
   237
   198
   Cr
   3.0
   2.9
   3.0
   3.1
   2.9
   2.8
   2.8
   2.7
   2.9
   TCO2
   45
   Glucose
   [**Telephone/Fax (3) 8640**]68
   126
   141
   150
   183
   231
   Other labs: PT / PTT / INR:12.2/43.4/1.0, Albumin:2.3 g/dL, Ca++:8.0
   mg/dL, Mg++:2.9 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR: bilateral pulmonary effusions and pulmonary edema
   Microbiology: [**9-17**] sputum - acinetobacter
   [**9-14**] sputum - coag + staph aureus (MRSA), and acinetobacter
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now re-intubated for airway protection do to
   continued respiratory secretions and tiring cough.
   #. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  s/p Tracheostomy yesterday.  Barriers to extubation
   include excess secretions and airway protection, fluid overload, mental
   status.
   - mental status: trach
   - pneumonia:  continue meropenum (13 of 14) and linezolid  (13 of 14)
   - pulmonary edema: continue lasix drip with diuril  and acetazolamide
   for goal of  - 2L / day
 titrating to BP
   # Neck Mass: concern for infection given tenderness of adenopathy,
   overlying erythema and warmth.  Mass appears to be caudal and lateral
   to airway and do not anticipate any problems with trach ENT believes
   this is [**1-20**] to low secretion in the setting of being chronically NPO.
   - warm compresses and massage q4h
   - [**Doctor Last Name 8639**] juice to stimulate secretion
   # Trach site
 site is still bleeding actively.  D/w IP regarding this:
   recommended silver nitrate or lidocaine with epi.
   #PEG placement
 PEG tube to be placed today.  Pt NPO for procedure
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 2.8.  Cr remains
   constant despite aggressive diuresis.  Of note patient is s/p prior
   nephrectomy.
   - continue diuresis as discussed above
   - follow [**Hospital1 **] lytes
   # Schizophrenia:  will hold clozaril until linezolid course complete
   for risk of pancyotopenia.  On home dose of perphenzine.
   - prn perphenazine for agitation
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - [**Hospital1 **] lytes and titrate free water flushes, transition to 200 QID for
   Na of 145
   # Anemia: poor reticulocyte output suggestive marrow suppression or low
   epo as source.  Stool remains guiac negative.   Hct 21.7 this AM
   - trend [**Hospital1 **] HCT and transfuse PRN to goal > 23
   - transfuse 2 units today
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol nebs
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, tube feeds held for PEG placement
   by GI today
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: d/w case management placement into step down unit at
   Rehab as requires significant level of nursing care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-26 12:20:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2121-9-25**] 10:30 AM
   -Trach and PEG in place
   -Significant oozing around trach site
   -2 units PRBC prior to PEG placement
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Sedated, interactive--not giving
   full history
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-24**] 05:00 PM
   Meropenem - [**2121-9-25**] 02:00 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Fentanyl - [**2121-9-25**] 04:00 PM
   Midazolam (Versed) - [**2121-9-25**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-26**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (98.9
   HR: 69 (50 - 69) bpm
   BP: 114/55(69) {85/40(50) - 123/58(74)} mmHg
   RR: 19 (16 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
           Total In:
                                                                  1,882 mL
                                                                    830 mL
   PO:
           TF:
                                                                    315 mL
   IVF:
                                                                  1,167 mL
                                                                    495 mL
   Blood products:
   335 mL
   Total out:
                                                                  3,455 mL
                                                                  1,380 mL
   Urine:
                                                                  3,455 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,573 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 96%
   ABG: ///37/
   Ve: 10 L/min
   Physical Examination
   Head, Ears, Nose, Throat: left parotid area without change
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   198 K/uL
   231 mg/dL
   2.9 mg/dL
   37 mEq/L
   3.2 mEq/L
   86 mg/dL
   100 mEq/L
   145 mEq/L
   21.8 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-9-22**]  02:39 AM
                             [**2121-9-22**]  02:40 PM
                             [**2121-9-23**]  02:54 AM
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
   WBC
   6.0
   5.0
   4.7
   4.9
   5.7
   4.9
   Hct
   23.0
   25.2
   26.5
   25.0
   24.4
   24.7
   23.0
   21.8
   Plt
   300
   255
   243
   227
   237
   198
   Cr
   3.0
   2.9
   3.0
   3.1
   2.9
   2.8
   2.8
   2.7
   2.9
   TCO2
   45
   Glucose
   [**Telephone/Fax (3) 8640**]68
   126
   141
   150
   183
   231
   Other labs: PT / PTT / INR:12.2/43.4/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.0 mg/dL, Mg++:2.9 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR-
   Assessment and Plan
   74 yo male admit with sepsis with pulmonary source now with prolonged
   hospital course leading to trach/PEG placment.  He has had continued
   need for ventilatory support with slow wean from ventilator attempted
   but with trach/PEG required for ongoing care.
   1)Respiratory Failure-
   -Vanco/Meropenem/Linezolid
   -Will move to PSV as tolerated today
   -Will discuss with IP strategy for control of post procedure bleeding
   -Will maintain minimization of sedation at this time
   2)Renal Failure-
   -Patient with creatinine without change
   -Will continue with lasix gtt for aid in diuresis
   -Follow creatinine
   3)Sepsis-
   -Continue with ABX
   -No need for pressors
   ICU Care
   Nutrition: G-tube in place
will start feeds with clearance from GI
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
will need to assure bleeding from trach stabilized
   prior to transfer to any facility
   Total time spent: 38 minutes

2121-09-27 06:48:00 Physician Resident Progress Note
Chief Complaint: 74 yom w/ paranoid schizophrenia, hypothyroidism,
   hypoadrenalism admitted with pneumosepsis vs, urosepsis c/b by NSTEMI
   and now VAP with acinetobacter and MRSA, re-intubated for airway
   protection due to continued respiratory secretions and tiring cough.
   Trach placed.  Waiting for rehab bed.
   24 Hour Events:
 PEG INSERTION - At [**2121-9-26**] 09:10 AM
   -[**Hospital1 246**] accepted him.  waiting for a bed.
   - bleeding from tracheostomy improved
   - started on a [**Hospital1 **] PPI for coffee grounds noted during peg placement
   - PEG placed by GI, waiting for GI okay to use
   - s/p 2 units of blood for Hct 21.7.  (recent NSTEMI)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-24**] 05:00 PM
   Meropenem - [**2121-9-26**] 12:45 PM
   Cefazolin - [**2121-9-26**] 01:04 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2121-9-26**] 06:52 PM
   Fentanyl - [**2121-9-26**] 06:52 PM
   Heparin Sodium (Prophylaxis) - [**2121-9-26**] 08:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-27**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 55 (53 - 79) bpm
   BP: 128/47(67) {101/41(55) - 132/65(82)} mmHg
   RR: 11 (11 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,572 mL
                                                                    348 mL
   PO:
             TF:
   IVF:
                                                                    872 mL
                                                                    168 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,540 mL
                                                                  1,140 mL
   Urine:
                                                                  3,540 mL
                                                                  1,140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,968 mL
                                                                   -792 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 527 (472 - 560) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 95%
   ABG: 7.46/51/94.[**Numeric Identifier 433**]/35/10
   Ve: 6.7 L/min
   PaO2 / FiO2: 188
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   8.2 g/dL
   192 mg/dL
   2.8 mg/dL
   35 mEq/L
   2.8 mEq/L
   85 mg/dL
   95 mEq/L
   147 mEq/L
   24.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
   WBC
   4.7
   4.9
   5.7
   4.9
   4.9
   Hct
   26.5
   25.0
   24.4
   24.7
   23.0
   21.8
   27.7
   24.7
   Plt
   243
   227
   237
   198
   179
   Cr
   3.1
   2.9
   2.8
   2.8
   2.7
   2.9
   2.8
   2.8
   TCO2
   45
   37
   Glucose
   168
   126
   141
   150
   183
   231
   192
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now re-intubated for airway protection do to
   continued respiratory secretions and tiring cough.  Trach placed.
   Currently accepted at [**Hospital1 246**], waiting for bed.
   #. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  s/p Tracheostomy yesterday.  Barriers to extubation
   include excess secretions and airway protection, fluid overload, mental
   status.
   - pneumonia:  day 14/14 for both meropenem and linezolid
 will DC both
   after today.
   - pulmonary edema: continue lasix drip with diuril  and acetazolamide
   for goal of  - 2L / day
 titrating to BP
   # Neck Mass: concern for infection given tenderness of adenopathy,
   overlying erythema and warmth.  ENT believes this is [**1-20**] to low
   secretion in the setting of being chronically NPO.  Trach performed.
   - warm compresses and massage q4h
   # Trach site
 site with more mild bleeding overnight.  IP injected
   lidocaine with epi.
   - monitor bleeding, will repeat HCT this afternoon.
   #PEG placement
 PEG placed yesterday successfully, site appears clean
   and dry.
   - will start tube feeds today
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 2.8.  Cr remains
   constant despite aggressive diuresis.  Of note patient is s/p prior
   nephrectomy.
   - continue diuresis as discussed above.
   - follow [**Hospital1 **] lytes.
   # Schizophrenia:  will hold clozaril until 2 weeks after completing
   linezolid course (2 weeks from today), for risk of pancyotopenia.  On
   home dose of perphenzine.
   - prn perphenazine for agitation
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - [**Hospital1 **] lytes and titrate free water flushes.
   # Anemia: poor reticulocyte output suggestive marrow suppression or low
   epo as source.  Stool remains guiac negative.   Hct slightly decreased
   this morning to 24.7.  Will re-check hematocrit this afternoon to
   determine if this represents a real drop or a continuing trend.
   - trend [**Hospital1 **] HCT and transfuse PRN to goal > 23
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol nebs
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, advance tube feeds
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: d/w case management placement into step down unit at
   Rehab as requires significant level of nursing care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU, waiting for bed at rehab, potentially DC tomorrow if
   HCT stable and otherwise doing well.

2121-09-27 12:15:00 Physician Attending Progress Note
Chief Complaint: Respiratory FAilure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   S/P trach and PEG
   Needed injection at trach site due to oozing
   Now down to PSV 5/5
   24 Hour Events:
 PEG INSERTION - At [**2121-9-26**] 09:10 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2121-9-24**] 05:00 PM
   Meropenem - [**2121-9-26**] 12:45 PM
   Cefazolin - [**2121-9-26**] 01:04 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2121-9-26**] 06:52 PM
   Fentanyl - [**2121-9-26**] 06:52 PM
   Heparin Sodium (Prophylaxis) - [**2121-9-26**] 08:47 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: mechanical ventilation
   Gastrointestinal: PEG
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-9-27**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 61 (52 - 79) bpm
   BP: 114/51(66) {101/41(55) - 132/65(82)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,572 mL
                                                                    730 mL
   PO:
             TF:
   IVF:
                                                                    872 mL
                                                                    310 mL
   Blood products:
                                                                    700 mL
   Total out:
                                                                  3,540 mL
                                                                  1,800 mL
   Urine:
                                                                  3,540 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,968 mL
                                                                 -1,070 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 480 (472 - 560) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 39
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.46/51/94.[**Numeric Identifier 433**]/35/10
   Ve: 7.2 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   179 K/uL
   192 mg/dL
   2.8 mg/dL
   35 mEq/L
   2.8 mEq/L
   85 mg/dL
   95 mEq/L
   147 mEq/L
   24.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2121-9-23**]  12:37 PM
                             [**2121-9-23**]  05:48 PM
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
   WBC
   4.7
   4.9
   5.7
   4.9
   4.9
   Hct
   26.5
   25.0
   24.4
   24.7
   23.0
   21.8
   27.7
   24.7
   Plt
   243
   227
   237
   198
   179
   Cr
   3.1
   2.9
   2.8
   2.8
   2.7
   2.9
   2.8
   2.8
   TCO2
   45
   37
   Glucose
   168
   126
   141
   150
   183
   231
   192
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:7.9 mg/dL, Mg++:2.8 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yo male admit with sepsis with pulmonary source now with prolonged
   hospital course leading to trach/PEG placment.  He has had continued
   need for ventilatory support with slow wean from ventilator attempted
   but with trach/PEG required for ongoing care.
   1)Respiratory Failure- last day of [**Last Name (un) **]/linezolid today
   Should be able to start trach mask trials
   Trach appears to have no further bleeding at moment --> continue to
   monitor, recheck Hct today
   2)Renal Failure-
   Continues to diurese as tolerated  with Lasix gtt--> goal 2L negative
   If pt remains stable from trach bleeding standpoint, hopefully to
   [**Hospital1 246**] later this weekend
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2121-09-28 08:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**9-26**]
   -[**Hospital1 246**] accepted him.  waiting for a bed.
   - bleeding from tracheostomy improved
   - started on a [**Hospital1 **] PPI for coffee grounds noted during peg placement
   - PEG placed by GI, waiting for GI okay to use
   - s/p 2 units of blood for Hct 21.7.  (recent NSTEMI)
   -[**9-27**]
   -bleeding from tracheostomy increased overnight, IP injected trach site
   with epinephrine.
   -bleeding stopped on morning rounds, with good clot formation.
   -[**Hospital1 246**] bed not available today, decided anyway to keep at least one
   more day to monitor HCT, make sure bleeding is stopped.
   -PM labs - Hct up to 28.5, potassium improved to 3.8
   -Trach mask trial in the evening, tolerated well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-26**] 12:45 PM
   Cefazolin - [**2121-9-26**] 01:04 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-27**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-28**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 69 (56 - 69) bpm
   BP: 128/56(74) {108/44(60) - 130/60(77)} mmHg
   RR: 14 (10 - 16) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,341 mL
                                                                    630 mL
   PO:
             TF:
                                                                    162 mL
                                                                    328 mL
   IVF:
                                                                    478 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    980 mL
   Urine:
                                                                  3,455 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,114 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (440 - 502) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: ///38/
   Ve: 6.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   9.0 g/dL
   194 mg/dL
   2.8 mg/dL
   38 mEq/L
   3.5 mEq/L
   82 mg/dL
   103 mEq/L
   147 mEq/L
   27.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
   WBC
   4.7
   4.9
   5.7
   4.9
   4.9
   6.1
   Hct
   25.0
   24.4
   24.7
   23.0
   21.8
   27.7
   24.7
   28.5
   27.5
   Plt
   243
   227
   237
   198
   179
   194
   Cr
   2.9
   2.8
   2.8
   2.7
   2.9
   2.8
   2.8
   2.8
   2.8
   TCO2
   37
   Glucose
   126
   141
   150
   183
   [**Telephone/Fax (2) 8660**]94
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:5.3 mg/dL
   Imaging: CXR:
   Mild interval increase in bilateral pleural effusions and atelectasis.
   Continued mild congestive failure.
   Microbiology: most recent cultures from [**9-14**] showing Acinetobacter and
   MRSA pneumonia
   Assessment and Plan
   74 yom w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now re-intubated for airway protection do to
   continued respiratory secretions and tiring cough.  Trach placed.
   Currently accepted at [**Hospital1 246**], waiting for bed.
   #. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  s/p Tracheostomy.  Barriers to extubation include
   excess secretions and airway protection, fluid overload, mental
   status.
   - pneumonia:  day 14/14 for both meropenem and linezolid
 abx
   stopped.
   - pulmonary edema: continue lasix drip with diuril  and acetazolamide
   for goal of  - 2L / day
 titrating to BP
   # Neck Mass: concern for infection given tenderness of adenopathy,
   overlying erythema and warmth.  ENT believes this is [**1-20**] to low
   secretion in the setting of being chronically NPO.  Trach performed.
   - warm compresses and massage q4h
   # Trach site
  IP injected lidocaine with epi.
   - monitor bleeding, HCTs have been stable
   #PEG placement
 PEG placed, site appears clean and dry.
   - Started TF
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 2.8.  Cr remains
   constant despite aggressive diuresis.  Of note patient is s/p prior
   nephrectomy.
   - continue diuresis as discussed above.
   - follow [**Hospital1 **] lytes.
   # Schizophrenia:  will hold clozaril until 2 weeks after completing
   linezolid course (2 weeks from today), for risk of pancyotopenia.  On
   home dose of perphenzine.
   - prn perphenazine for agitation
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - [**Hospital1 **] lytes and titrate free water flushes.
   # Anemia: poor reticulocyte output suggestive marrow suppression or low
   epo as source.  Stool remains guiac negative.   Hct slightly decreased
   this morning to 24.7.  Will re-check hematocrit this afternoon given
   bleeding around trach site yesterday.
   - trend [**Hospital1 **] HCT and transfuse PRN to goal > 23
   #.Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol nebs
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, advance tube feeds
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: bed pending at [**Hospital1 246**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-27**] 02:40 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-28 12:58:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No further bleeding from trach overnight
   24 Hour Events:
   Trach mask trial last evening - tolerated well
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-26**] 12:45 PM
   Cefazolin - [**2121-9-26**] 01:04 PM
   Infusions:
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-27**] 04:30 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Tachycardia
   Respiratory: tracheostomy
   Gastrointestinal: PEG
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-9-28**] 12:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 66 (56 - 73) bpm
   BP: 110/54(68) {108/44(60) - 136/61(77)} mmHg
   RR: 14 (10 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,341 mL
                                                                  1,144 mL
   PO:
             TF:
                                                                    162 mL
                                                                    539 mL
   IVF:
                                                                    478 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                  1,670 mL
   Urine:
                                                                  3,455 mL
                                                                  1,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,114 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 98 (98 - 502) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 44
   PIP: 0 cmH2O
   SpO2: 94%
   ABG: ///38/
   Ve: 8.8 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, movements slow
   but does interact
   Labs / Radiology
   9.0 g/dL
   194 K/uL
   194 mg/dL
   2.8 mg/dL
   38 mEq/L
   3.5 mEq/L
   82 mg/dL
   103 mEq/L
   147 mEq/L
   27.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2121-9-24**]  02:07 AM
                             [**2121-9-24**]  06:00 PM
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
   WBC
   4.7
   4.9
   5.7
   4.9
   4.9
   6.1
   Hct
   25.0
   24.4
   24.7
   23.0
   21.8
   27.7
   24.7
   28.5
   27.5
   Plt
   243
   227
   237
   198
   179
   194
   Cr
   2.9
   2.8
   2.8
   2.7
   2.9
   2.8
   2.8
   2.8
   2.8
   TCO2
   37
   Glucose
   126
   141
   150
   183
   [**Telephone/Fax (2) 8660**]94
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.7 mg/dL, Mg++:2.7 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EDEMA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yo male admit with sepsis with pulmonary source now with prolonged
   hospital course leading to trach/PEG placment.  He has had continued
   need for ventilatory support with slow wean from ventilator attempted
   but with trach/PEG required for ongoing care.
   1)Respiratory Failure- completed [**Last Name (un) **]/linezolid
   Cont trach mask trials.  Goal neg 1L per day.  Change Lasix to bolus
   from drip
   2)Renal Failure-
   1L negative as above
   To [**Hospital1 246**] when bed available.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-27**] 02:40 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2121-09-29 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -[**9-27**]
   -bleeding from tracheostomy increased overnight, IP injected trach site
   with epinephrine.
   -bleeding stopped on morning rounds, with good clot formation.
   -[**Hospital1 246**] bed not available today, decided anyway to keep at least one
   more day to monitor HCT, make sure bleeding is stopped.
   -PM labs - Hct up to 28.5, potassium improved to 3.8
   -Trach mask trial in the evening, tolerated well.
   -[**9-28**]
   -Lasix gtt stopped, did not require any Lasix boluses and UOP of 1L
   -Na 150 yesterday, increased free water flushes to 200mL q6
   -out of bed to chair all day
   -T-piece all day yesterday, tolerated well, on AC overnight to rest
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-26**] 12:45 PM
   Cefazolin - [**2121-9-26**] 01:04 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-29**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 66 (64 - 75) bpm
   BP: 98/52(63) {98/45(63) - 136/68(85)} mmHg
   RR: 15 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 101.8 kg (admission): 100 kg
   Height: 71 Inch
                  Total In:
                                                                  1,930 mL
                                                                    290 mL
   PO:
                  TF:
                                                                  1,043 mL
                                                                    290 mL
   IVF:
                                                                    156 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    380 mL
   Urine:
                                                                  2,500 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -570 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (98 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: ///38/
   Ve: 5.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   198 K/uL
   8.9 g/dL
   220 mg/dL
   2.5 mg/dL
   38 mEq/L
   3.6 mEq/L
   78 mg/dL
   107 mEq/L
   149 mEq/L
   27.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
                            [**2121-9-28**]  01:56 PM
                            [**2121-9-29**]  02:40 AM
   WBC
   5.7
   4.9
   4.9
   6.1
   7.1
   Hct
   24.7
   23.0
   21.8
   27.7
   24.7
   28.5
   27.5
   27.5
   Plt
   237
   198
   179
   194
   198
   Cr
   2.8
   2.7
   2.9
   2.8
   2.8
   2.8
   2.8
   2.7
   2.5
   TCO2
   37
   Glucose
   150
   183
   231
   192
   117
   194
   220
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Microbiology: most recent cultures from [**9-14**] showing Acinetobacter and
   MRSA pneumonia
   Imaging:
   CXR
   Assessment and Plan
   74 yo M w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now re-intubated for airway protection do to
   continued respiratory secretions and tiring cough.  Trach placed.
   Currently accepted at [**Hospital1 246**], waiting for bed.
   #. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  s/p Tracheostomy.  Barriers to extubation include
   excess secretions and airway protection, fluid overload, mental
   status.
   - pneumonia:  completed 14d course both meropenem and linezolid
 abx
   stopped [**9-26**].
   - pulmonary edema: lasix gtt stopped yesterday, no lasix boluses
   required, UOP >1L since d/c
   # Neck Mass: concern for infection given tenderness of adenopathy,
   overlying erythema and warmth.  ENT believes this is [**1-20**] to low
   secretion in the setting of being chronically NPO.  Trach performed.
   - warm compresses and massage q4h
   # Trach site
  IP injected lidocaine with epi.
   - monitor bleeding, HCTs have been stable
   #PEG placement
 PEG placed, site appears clean and dry.
   - Started TF
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 2.8.  Cr remains
   constant despite aggressive diuresis.  Of note patient is s/p prior
   nephrectomy.
   - continue diuresis as discussed above.
   - follow [**Hospital1 **] lytes.
    # Schizophrenia:  will hold clozaril until 2 weeks after completing
   linezolid course (2 weeks from today), for risk of pancyotopenia.  On
   home dose of perphenzine.
   - prn perphenazine for agitation
   # Hypernatremia: likely combination of pre-renal azotemia in setting of
   hypertonic tube feeds.
   - [**Hospital1 **] lytes and titrate free water flushes.
   # Anemia: poor reticulocyte output suggestive marrow suppression or low
   epo as source.  Stool remains guiac negative.   Hct slightly decreased
   this morning to 27.5.
   - trend [**Hospital1 **] HCT and transfuse PRN to goal > 23
   # Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol nebs
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, advance tube feeds
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: bed pending at [**Hospital1 246**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-28**] 02:53 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-29 11:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   T-poece for entire day yesterday and did well
   Back on A/C overnight
   24 Hour Events:
   No further bleeding from trach site
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2121-9-26**] 12:45 PM
   Cefazolin - [**2121-9-26**] 01:04 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-29**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: trach
   Gastrointestinal: PEG
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-9-29**] 11:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 76 (64 - 76) bpm
   BP: 123/63(77) {98/45(63) - 135/68(85)} mmHg
   RR: 16 (11 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,932 mL
                                                                    721 mL
   PO:
             TF:
                                                                  1,045 mL
                                                                    505 mL
   IVF:
                                                                    156 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    950 mL
   Urine:
                                                                  2,500 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -568 mL
                                                                   -229 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (98 - 506) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 10 cmH2O
   SpO2: 96%
   ABG: ///38/
   Ve: 5.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   198 K/uL
   220 mg/dL
   2.5 mg/dL
   38 mEq/L
   3.6 mEq/L
   78 mg/dL
   107 mEq/L
   149 mEq/L
   27.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2121-9-25**]  03:22 AM
                             [**2121-9-25**]  05:41 PM
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
                            [**2121-9-28**]  01:56 PM
                            [**2121-9-29**]  02:40 AM
   WBC
   5.7
   4.9
   4.9
   6.1
   7.1
   Hct
   24.7
   23.0
   21.8
   27.7
   24.7
   28.5
   27.5
   27.5
   Plt
   237
   198
   179
   194
   198
   Cr
   2.8
   2.7
   2.9
   2.8
   2.8
   2.8
   2.8
   2.7
   2.5
   TCO2
   37
   Glucose
   150
   183
   231
   192
   117
   194
   220
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EDEMA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yo male admit with sepsis with pulmonary source now with prolonged
   hospital course leading to trach/PEG placment.  Now trach masking
   during the day.
   1)Respiratory Failure- completed [**Last Name (un) **]/linezolid
   Cont trach mask during day.  No further active diuresis for now
   2)Renal Failure-
   Renal function stable
   To [**Hospital1 246**] when bed available.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-29**] 08:34 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2121-09-30 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -slight bleeding from around trach site
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-29**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-9-30**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 73 (68 - 84) bpm
   BP: 141/67(85) {106/55(68) - 141/67(85)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,342 mL
                                                                    324 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    292 mL
   IVF:
                                                                    185 mL
                                                                     32 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    700 mL
   Urine:
                                                                  2,075 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -733 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: Standby
   RR (Spontaneous): 16
   FiO2: 60%
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   223 K/uL
   9.2 g/dL
   193 mg/dL
   2.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   75 mg/dL
   110 mEq/L
   150 mEq/L
   28.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2121-9-26**]  02:25 AM
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
                            [**2121-9-28**]  01:56 PM
                            [**2121-9-29**]  02:40 AM
                            [**2121-9-29**]  04:40 PM
                            [**2121-9-30**]  03:50 AM
   WBC
   4.9
   4.9
   6.1
   7.1
   8.3
   Hct
   21.8
   27.7
   24.7
   28.5
   27.5
   27.5
   28.3
   Plt
   198
   179
   194
   198
   223
   Cr
   2.9
   2.8
   2.8
   2.8
   2.8
   2.7
   2.5
   2.5
   2.3
   TCO2
   37
   Glucose
   [**Telephone/Fax (3) 8660**]94
   220
   221
   193
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   74 yo M w/ paranoid schizophrenia, hypothyroidism, hypoadrenalism
   admitted with pneumosepsis vs, urosepsis c/b by NSTEMI and now VAP with
   acinetobacter and MRSA, now re-intubated for airway protection do to
   continued respiratory secretions and tiring cough.  Trach placed.
   Currently accepted at [**Hospital1 246**], waiting for bed.
   #. Respiratory Failure/PNA:  most recent cultures from [**9-14**] showing
   Acinetobacter and MRSA pneumonia in setting of fluid overload and
   pulmonary edema.  s/p Tracheostomy.  Barriers to extubation include
   excess secretions and airway protection, fluid overload, mental
   status.
   - pneumonia:  completed 14d course both meropenem and linezolid
 abx
   stopped [**9-26**].
   - pulmonary edema: UOP  -1L almost daily, improving pulmonary edema
   .
   # Neck Mass: concern for infection vs inflammation given tenderness of
   adenopathy, overlying erythema and warmth.  ENT believes this is [**1-20**] to
   low secretion in the setting of being chronically NPO.  Trach
   performed.  Now improving.
   - warm compresses and massage q4h
   # Trach site
  IP injected lidocaine with epi.
   - monitor bleeding, HCTs have been stable, given some bleeding for last
   several days IP will be by to look at it
   -applying silver nitrate to area
   #PEG placement
 PEG placed, site appears clean and dry.
   - Started TF
   #Metabolic alkalosis - HCO3- has ranged from 35 to 40 over last week or
   so.  ABG from [**9-26**] is pH of 7.46 - 7.5.    pCO2 is 51, which suggests
   there is respiratory compensation with an additional respiratory
   acidosis on top.  (0.7)(Bicarb) + 20 = pCO expected = 44.  Most likely
   causes of metabolic alkalosis in him is likely a combination of
   contraction alkalosis with some post-hypercapnic alkalosis.  Possibly
   also related to hyperaldosteronism because has refractory hypernatremia
   and has been hypokalemic in past.   Without resolution could make
   extubation more difficult because is promoting compensatory respiratory
   hypoventilation.
   -Consider administration of acetozolamide
   # Hypertension
 patient remains normotensive and now transitioned back
   to home Amlodipine dose.
   - continue Amlodipine 10 mg daily
   # [**Last Name (un) 2406**]: likely resulting from ATN in septic shock state with normal
   baseline 1.8-2, now trending down from peak of 4.6  to 2.3.  Resolving.
   -Trend creatinines
    # Schizophrenia:  will hold clozaril until 2 weeks after completing
   linezolid course (2 weeks from today), for risk of pancyotopenia.  Can
   restart [**10-10**].  On home dose of perphenzine.
   - prn perphenazine for agitation
   # Hypernatremia: likely combination of renal failure and hypertonic
   tube feeds
   -Talk to nutrition about formula
   -Can increase free water flushes to 250 q6
   -[**Hospital1 **] lytes
   -Consider underlying hyperaldosteronism
   # Anemia: HCTs stable, likely secondary to underlying renal disease.
   - trend HCTs daily
   # Hypothyroidism: continue levothyroxine
   # COPD: continue atrovent and albuterol nebs
   # Adrenal insufficiency: continue home decadron dose
   # DM: continue insulin SQ with ISS
   # FEN: [**Hospital1 **] lytes with PRN repleteion, continue tube feeds
   # Prophylaxis: SQH , bowel regimine, lansoprazole
   # Access: PICC line
   # Code: FULL
   # Disposition: bed pending at [**Hospital1 246**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-30**] 02:19 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2121-09-30 10:46:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, [**Doctor Last Name 8704**] shock (resolved)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints - continues to trach mas
   24 Hour Events:
   More bleeding around trach site - not as severe as previous
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-29**] 10:22 PM
   Other medications:
   per ICU resident
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: trach
   Cardiovascular: No(t) Tachycardia
   Nutritional Support: Tube feeds
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-9-30**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 73 (68 - 84) bpm
   BP: 141/67(85) {120/55(72) - 141/67(85)} mmHg
   RR: 14 (12 - 19) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 100 kg
   Height: 71 Inch
             Total In:
                                                                  1,342 mL
                                                                    525 mL
   PO:
             TF:
                                                                  1,082 mL
                                                                    473 mL
   IVF:
                                                                    185 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    700 mL
   Urine:
                                                                  2,075 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -733 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: T-piece
   Ventilator mode: Standby
   RR (Spontaneous): 17
   FiO2: 60%
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
    223 K/uL
   193 mg/dL
   2.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   75 mg/dL
   110 mEq/L
   150 mEq/L
   28.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2121-9-26**]  05:29 PM
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
                            [**2121-9-28**]  01:56 PM
                            [**2121-9-29**]  02:40 AM
                            [**2121-9-29**]  04:40 PM
                            [**2121-9-30**]  03:50 AM
                            [**2121-9-30**]  09:55 AM
   WBC
   4.9
   6.1
   7.1
   8.3
   8.3
   Hct
   27.7
   24.7
   28.5
   27.5
   27.5
   28.3
   28.3
   Plt
   179
   194
   198
   223
    223
   Cr
   2.8
   2.8
   2.8
   2.8
   2.7
   2.5
   2.5
   2.3
   TCO2
   37
   Glucose
   192
   117
   194
   220
   221
   193
   Other labs: PT / PTT / INR:13.1/55.5/1.1, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.6 mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EDEMA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yo male admit with sepsis with pulmonary source now with prolonged
   hospital course leading to trach/PEG placment.  Now trach masking
   during the day.
   1)Respiratory Failure- completed [**Last Name (un) **]/linezolid
   Trach mask trials during the day
   2)Renal Failure-
    Renal function stable
   3)Trach site bleeding: Slowing down.  IP to evaluate today - perhaps
   inject
   4)Hypernatremia: Increase fH20 flushes.
   To [**Hospital1 246**] when bed available.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-30**] 02:19 AM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2121-10-01 09:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, Spetic shock (resolved)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints
   24 Hour Events:
   No further bleeding for trach site overnight
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-9-30**] 10:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: trach
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-10-1**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 69 (61 - 78) bpm
   BP: 121/59(75) {89/44(58) - 149/72(89)} mmHg
   RR: 14 (12 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 94.5 kg (admission): 100 kg
   Height: 71 Inch
                  Total In:
                                                                  2,979 mL
                                                                  1,169 mL
   PO:
                  TF:
                                                                  1,081 mL
                                                                    419 mL
   IVF:
                                                                  1,088 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    820 mL
   Urine:
                                                                  2,250 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    729 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 95%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   225 K/uL
   179 mg/dL
   2.2 mg/dL
   34 mEq/L
   3.9 mEq/L
   64 mg/dL
   108 mEq/L
   147 mEq/L
   26.3 %
   8.2 K/uL
        [image002.jpg]
                             [**2121-9-26**]  05:48 PM
                            [**2121-9-27**]  03:31 AM
                            [**2121-9-27**]  02:47 PM
                            [**2121-9-28**]  02:37 AM
                            [**2121-9-28**]  01:56 PM
                            [**2121-9-29**]  02:40 AM
                            [**2121-9-29**]  04:40 PM
                            [**2121-9-30**]  03:50 AM
                            [**2121-9-30**]  09:55 AM
                            [**2121-10-1**]  02:36 AM
   WBC
   4.9
   6.1
   7.1
   8.3
   8.3
   8.2
   Hct
   27.7
   24.7
   28.5
   27.5
   27.5
   28.3
   28.3
   26.3
   Plt
   179
   194
   198
   223
    223
   225
   Cr
   2.8
   2.8
   2.8
   2.8
   2.7
   2.5
   2.5
   2.3
   2.2
   Glucose
   192
   117
   194
   220
   221
   193
   179
   Other labs: PT / PTT / INR:12.1/32.7/1.0, CK / CKMB /
   Troponin-T:739/98/0.09, ALT / AST:48/25, Alk Phos / T Bili:50/0.3,
   Differential-Neuts:86.2 %, Band:21.0 %, Lymph:8.1 %, Mono:4.9 %,
   Eos:0.6 %, Fibrinogen:626 mg/dL, Lactic Acid:0.9 mmol/L, Albumin:2.3
   g/dL, LDH:275 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 ELECTROLYTE & FLUID DISORDER, OTHER
 PULMONARY EDEMA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERGLYCEMIA
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   74 yo male admit with sepsis with pulmonary source now with prolonged
   hospital course leading to trach/PEG placment.  Now trach masking
   during the day.  To LTAC later this AM
   1)Respiratory Failure-
   Trach mask trials during the day
 continues to improve
   2)Renal Failure-
    Renal function stable
   3)Trach site bleeding: No further bleeding from site
   4)Hypernatremia: Na 147 today
 will need continuing fH20 flushes
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2121-9-30**] 08:04 PM 45 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2121-9-18**] 03:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 30 minutes
   Patient is critically ill